2107-03-07 06:15:00 Physician Resident Progress Note
24 Hour Events:
   Pt admitted to the floor overnight. Initially on BiPap w/ improving
   VBGs. Transitioned to Venturi facemask, tolerating well.  Discussions
   held with Pt and family overnight
   Allergies:
   Ciprofloxacin
   Unknown;
   Penicillins
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2107-3-7**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-7**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 120 (79 - 120) bpm
   BP: 127/69(83) {90/44(61) - 180/96(118)} mmHg
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,620 mL
                                                                    522 mL
   PO:
             TF:
   IVF:
                                                                    120 mL
                                                                    522 mL
   Blood products:
   Total out:
                                                                    205 mL
                                                                     80 mL
   Urine:
                                                                     55 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,415 mL
                                                                    442 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Spontaneous): 242 (228 - 242) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 35%
   SpO2: 89%
   ABG: 7.17/99.[**Numeric Identifier 253**]/66//4
   Ve: 5.6 L/min
   PaO2 / FiO2: 189
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   3.5 mEq/L
   95 mEq/L
   146 mEq/L
   44
        [image002.jpg]
                             [**2107-3-6**]  08:42 PM
                             [**2107-3-6**]  09:32 PM
   Hct
   44
   TCO2
   41
   38
   Other labs: Lactic Acid:1.5 mmol/L
   Assessment and Plan
   Assessment and Plan: Ms. [**Known lastname **] is a 78 year old woman with a history of
   HTN and PVD s/p CVA who presents after mental status changes, anorexia,
   & progressive lethargy with a work-up concerning for multifocal
   pneumonia & UTI.
   .
   # Hypercarbic respiratoy failure: Acute on chronic. Suspect
   multifactorial including chronic hypercarbia at baseline +/- excess
   volume +/- infection.   HCO3 38 on admission, not usually so high
   (baseline 30).  ? Aggressive diuresis. Potentially due to poor
   respiratory controller function secondary to overmedication, or poor
   respiratory muscle function. Could be due to prior C-spine injury
   causing phrenic nerve injury worsening respiratory dynamics. [**Month (only) 60**] also
   consider PE and infection/pneumonia. S/p tracheostomy in [**4-/2096**] [**2-1**]
   incarcerated hernia repair and failure to wean.  Unclear if aspiration
   risk but on po diet at NS.  CXR with ? PNA vs volume overload.
    - Treat infection as above
    - Venturi FM
    - Discuss recent baseline labs / medication changes with [**Hospital1 169**] in AM
   - Check Depakote level
   - Check LFTs
   - PFTs and negative inspiratory force as out-patient to evaluate
   respiratory muscle function.
   - CTA to evaluate for PE.
   - Treat infection (Vanc/[**Last Name (un) **]); Azithromycin added for atypicals
   - Urine legionella antigen; will d/c azithromycin if legionella
   negative.
   - Sputum / blood culture as able
   - BNP level
   .
   # Lethargy/AMS:  Lethargy and minimalizing localizing symptoms.
   Present work-up notable for +UA (with history of Cipro-R E.coli) and
   CXR which appears more volume over-loaded than true PNA.  Afebrile,
   without leukocytosis.  Family notes h/o coughing.  Could also consider
   aspiration, viral vs atypicals.  Also with hypercarbia that is
   definately contributing. Resolved with improvement in respiratory
   status.
   - Urine culture
    - On Venturi facemask now.
    - Valproic acid level
    - Hold Risperdal / Depakote given AMS
    - Monitor with serial VBGs
   - Access: get Picc and arterial line.
   .
   # UTI:  UA with hematuria. H/o Cipro-R E.coli.  Denies any complaints.
    - [**Last Name (un) **]/Vanco
    - Follow-up culture (adding from ICU)
   - Obtaining PM Hct due to hematuria
   .
   # Hypertension: On Diltiazem as outpatient.  Unclear if given today.
    - Will break into short-acting while unclear volume status (consider
   holding)
   .
   # Peripheral vascular disease: Patient known chronic venous stasis
   changes & Proteus wound infections.  No ulcerations on exam.
    - Monitor, lotion [**Hospital1 **]
   .
   # Bipolar disorder:  On Risperdal / Depakote as outpatient.
    - Hold medications for AMS, plan to restart as able.
    - Check Depakote level; holding risperdal and depakote levels.
   .
   # Diverticulosis: Patient h/o LGIB in [**2104**].  No c/o of pain at this
   time to indicate inflammation.
    - No e/o bleeding at this time
    - Continue bowel regimen
    - Monitor Hct
   .
   # s/p CVA: Unclear what deficit remains and patient unable to provide
   further history. Will plan to discuss with daughter.  [**Name (NI) **] family,
   unable to move R arm and not ambulatory
    - Extensive Neuro exam once patient less lethargic
   .
   # Urinary Incontinence: At baseline.
    - Foley in place
   .
   FEN: IVF o/n (monitor uop), replete electrolytes, NPO while on BiPAP
   - Clear liquids today and advance diet with improvement in mental
   status.
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: PIV
   .
   Code: DNR/DNI  (confirmed with patient upon arrival to ICU)
   .
   Communication: Patient & daughter
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2107-3-6**] 09:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-03-08 07:46:00 Physician Resident Progress Note
24 Hour Events:
   [**2107-3-7**]:
   -refused BiPAP, ABG went to 7.18/107/57. Restarted BiPAP.
   -placed A-line
   -noted to have increased secretions, yellowish, sending for culture
   Allergies:
   Ciprofloxacin
   Unknown;
   Penicillins
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2107-3-7**] 08:37 PM
   Meropenem - [**2107-3-7**] 10:32 PM
   Azithromycin - [**2107-3-8**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-3-7**] 08:19 AM
   Furosemide (Lasix) - [**2107-3-7**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-8**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 89 (81 - 120) bpm
   BP: 125/68(87) {93/54(67) - 174/98(128)} mmHg
   RR: 22 (21 - 36) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,206 mL
                                                                    250 mL
   PO:
             TF:
   IVF:
                                                                  2,206 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,073 mL
                                                                    450 mL
   Urine:
                                                                  1,073 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,133 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 176 (176 - 296) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 35%
   PIP: 22 cmH2O
   SpO2: 90%
   ABG: 7.32/77/67/39/9
   Ve: 3.7 L/min
   PaO2 / FiO2: 191
   Physical Examination
   Done by [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 10147**]:
   Gen: NAD, on bipap
   PULM:  anterior rhonchi throughout, decreased at bases
   CV: RRR
   ABD:  + BS, soft, NT/ND
   EXT: pulses intact, b/l LE with marked darkening of tissue and venous
   stasis changes
   SKIN:  has erythematous rash over back
   NEURO: alert, responds to simple questions
   Labs / Radiology
   133 K/uL
   13.3 g/dL
   95 mg/dL
   0.4 mg/dL
   39 mEq/L
   3.7 mEq/L
   14 mg/dL
   101 mEq/L
   143 mEq/L
   44.8 %
   7.6 K/uL
        [image002.jpg]
                                                                [**2107-3-8**]
                                                                    02:28a
   _______________________________________________________________________
                                     pH
                                    7.32
                                    pCO2
                                     77
                                     pO2
                                     67
                                    HCO3
                                     42
                                   BaseXS
                                      9
   Comments:
   pCO2: Verified
   pCO2: No Calls Made - Same Abnormality Previously Noted Today
   Type:Art
   freeCa:1.23
   Lactate:0.8
   O2Sat: 93
                             [**2107-3-6**]  08:42 PM
                             [**2107-3-6**]  09:32 PM
                             [**2107-3-7**]  05:49 AM
                             [**2107-3-7**]  02:36 PM
                             [**2107-3-7**]  05:17 PM
                             [**2107-3-7**]  07:15 PM
                             [**2107-3-7**]  11:18 PM
                             [**2107-3-8**]  02:13 AM
                             [**2107-3-8**]  02:28 AM
   WBC
   6.3
   7.6
   Hct
   44
   45.7
   34
   45
   44.8
   Plt
   144
   133
   Cr
   0.6
   0.4
   TCO2
   41
   38
   42
   39
   38
   42
   Glucose
   88
   95
   Other labs: PT / PTT / INR:12.0/35.6/1.0, Lactic Acid:0.8 mmol/L,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   # Hypercarbic respiratoy failure: Acute on chronic. Suspect
   multifactorial including chronic hypercarbia at baseline +/- excess
   volume +/- infection.   Based on CXR, likely pneumonia.  HCO3 38 on
   admission, not usually so high (baseline 30).  ? Aggressive diuresis.
   Potentially due to poor respiratory controller function secondary to
   overmedication, or poor respiratory muscle function. Could be due to
   prior C-spine injury causing phrenic nerve injury worsening respiratory
   dynamics. [**Month (only) 60**] also consider PE and infection/pneumonia. S/p
   tracheostomy in [**4-/2096**] [**2-1**] incarcerated hernia repair and failure to
   wean.  Unclear if aspiration risk but on po diet at NS.  CXR with ? PNA
   vs volume overload.
    - Treat infection
 now has diffuse rash on vanco/azithro
 will talk
   with ID about linezolid/aztreonam
   - consider derm consult if rash progresses
    - Venturi FM
    - Discuss recent baseline labs / medication changes with [**Hospital1 169**]/ clarify
   allergies
   - Check Depakote level
   - Check LFTs
   - PFTs and negative inspiratory force as out-patient to evaluate
   respiratory muscle function.
   - CTA to evaluate for PE.
   - Treat infection (Vanc/[**Last Name (un) **]); Azithromycin added for atypicals
   - Urine legionella antigen; will d/c azithromycin if legionella
   negative.
   - Sputum / blood culture as able
   - Noninvasive ventilation as needed
   - Social work consult and family meeting to discuss goals of care
   # Lethargy/AMS:  Lethargy and minimalizing localizing symptoms.
   Present work-up notable for +UA (with history of Cipro-R E.coli) and
   CXR which appears more volume over-loaded than true PNA.  Afebrile,
   without leukocytosis.  Family notes h/o coughing.  Could also consider
   aspiration, viral vs atypicals.  Also with hypercarbia that is
   definately contributing. Resolved with improvement in respiratory
   status.
   - Urine culture
    - On Venturi facemask now.
    - Valproic acid level
    - Hold Risperdal / Depakote given AMS
    - Monitor with serial ABGs
   - Access: get Picc and arterial line.
   .
   # UTI:  UA with hematuria. H/o Cipro-R E.coli.  Denies any complaints.
    - [**Last Name (un) **]/Vanco
 as above, will touch base with ID regarding antibiotic
   regimen treatment
    - Follow-up culture (adding from ICU)
   - strict I/Os
   - DC irrigation for now
   # Hypertension: On Diltiazem as outpatient.  Unclear if given today.
    - Will hold while unclear volume status
   .
   # Peripheral vascular disease: Patient known chronic venous stasis
   changes & Proteus wound infections.
    - Monitor, lotion [**Hospital1 **]
   .
   # Bipolar disorder:  On Risperdal / Depakote as outpatient.
    - Hold medications for AMS, plan to restart as able.
    - Check Depakote level; holding risperdal and depakote levels.
   .
   # Diverticulosis: Patient h/o LGIB in [**2104**].  No c/o of pain at this
   time to indicate inflammation.
    - No e/o bleeding at this time
    - Continue bowel regimen
    - Monitor Hct
   .
   # s/p CVA: Unclear what deficit remains and patient unable to provide
   further history. Will plan to discuss with daughter.  [**Name (NI) **] family,
   unable to move R arm and not ambulatory
    - Extensive Neuro exam once patient less lethargic
   .
   # Urinary Incontinence: At baseline.
    - Foley in place
   .
   FEN: IVF o/n (monitor uop), replete electrolytes, NPO while on BiPAP
   - Clear liquids today and advance diet with improvement in mental
   status.
   Prophylaxis: Subcutaneous heparin
   Access: PIV, A Line
   Code: DNR/DNI  (confirmed with patient upon arrival to ICU)
   Communication: Patient & daughter
   Disposition: ICU pending clinical improvement

2107-03-09 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Stable overnight, KPhos repleted, intermittently on BIPap
   Decreased UOP since yesterday evening.  Was irrigated with 100cc, all
   of which returned, pink in color.  Pt. given 1L NS bolus with little
   change in UOP
   Allergies:
   Ciprofloxacin
   Unknown;
   Penicillins
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2107-3-8**] 09:04 AM
   Meropenem - [**2107-3-8**] 10:00 AM
   Aztreonam - [**2107-3-9**] 12:00 AM
   Azithromycin - [**2107-3-9**] 02:00 AM
   Linezolid - [**2107-3-9**] 06:09 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-3-8**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-9**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 104 (85 - 114) bpm
   BP: 106/62(80) {100/57(72) - 171/126(141)} mmHg
   RR: 27 (18 - 36) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,450 mL
                                                                  1,150 mL
   PO:
             TF:
   IVF:
                                                                  1,450 mL
                                                                  1,150 mL
   Blood products:
   Total out:
                                                                    717 mL
                                                                     95 mL
   Urine:
                                                                    717 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    733 mL
                                                                  1,055 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 323 (238 - 381) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 93%
   ABG: 7.33/68/77.[**Numeric Identifier 96**]/40/6
   Ve: 4.7 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Gen: NAD
   PULM:  anterior rhonchi throughout, decreased at bases
   CV: RRR
   ABD:  + BS, soft, NT/ND
   EXT: pulses intact, b/l LE with marked darkening of tissue and venous
   stasis changes
   SKIN:  rash on  back
   NEURO: alert, responds to simple questions
   Labs / Radiology
   134 K/uL
   12.8 g/dL
   82 mg/dL
   0.3 mg/dL
   40 mEq/L
   3.5 mEq/L
   17 mg/dL
   99 mEq/L
   140 mEq/L
   42.1 %
   9.4 K/uL
        [image002.jpg]
                             [**2107-3-7**]  07:15 PM
                             [**2107-3-7**]  11:18 PM
                             [**2107-3-8**]  02:13 AM
                             [**2107-3-8**]  02:28 AM
                             [**2107-3-8**]  10:46 AM
                             [**2107-3-8**]  03:30 PM
                             [**2107-3-8**]  03:51 PM
                             [**2107-3-8**]  06:35 PM
                             [**2107-3-9**]  02:14 AM
                             [**2107-3-9**]  02:24 AM
   WBC
   7.6
   8.5
   9.4
   Hct
   44.8
   44.5
   42.1
   Plt
   133
   140
   134
   Cr
   0.4
   0.3
   0.3
   TCO2
   39
   38
   42
   38
   44
   37
   37
   Glucose
   95
   103
   82
   Other labs: PT / PTT / INR:12.1/35.6/1.0, ALT / AST:[**7-13**], Alk Phos / T
   Bili:53/0.3, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:9.0 %,
   Mono:9.0 %, Eos:2.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL,
   LDH:171 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:1.4 mg/dL
                                                                [**2107-3-9**]
                                                                    02:24a
   _______________________________________________________________________
                                     pH
                                    7.33
                                    pCO2
                                     68
                                     pO2
                                     78
                                    HCO3
                                     37
                                   BaseXS
                                      6
   Type:Art
                                                                [**2107-3-8**]
                                                                     6:35p
   _______________________________________________________________________
                                     pH
                                    7.35
                                    pCO2
                                     65
                                     pO2
                                     64
                                    HCO3
                                     37
                                   BaseXS
                                      6
   Type:Art; Not Intubated; FiO2%:35; TV:260; Temp:36.1
   freeCa:1.15 / Lactate:1.0
                                                                [**2107-3-8**]
                                                                     3:51p
   _______________________________________________________________________
                                     pH
                                    7.27
                                    pCO2
                                     91
                                     pO2
                                     75
                                    HCO3
                                     44
                                   BaseXS
                                     10
   Type:Art; Not Intubated; Simple Face Mask;
   O2-Flow:50; Temp:36.4
                                                                [**2107-3-8**]
                                                                    10:46a
   _______________________________________________________________________
                                     pH
                                    7.28
                                    pCO2
                                     77
                                     pO2
                                     61
                                    HCO3
                                     38
                                   BaseXS
                                      5
   Type:Art; Not Intubated; FiO2%:50
   freeCa:1.18 / Lactate:0.7
   Assessment and Plan
   78F HTN, CVA c R hemiplegia, PVD, bipolar d/o admitted with
   acute-on-chronic hypercarbic respiratory failure and probable UTI, PNA
   with increasingly productive cough, on NPPV much of the time.
   # Hypercarbic Respiratoy Failure: Acute on chronic. Suspect
   multifactorial including chronic hypercarbia at baseline +/- excess
   volume +/- infection.  PNA on CXR. Baseline HCO3 30, 38 on admission.
   No evidence of PE on CTA. s/p tracheostomy in [**4-/2096**] [**2-1**] incarcerated
   hernia repair and failure to wean.  Unclear if aspiration risk but on
   po diet at NS.
   - Treat PNA: now linezolid/aztreonam
   - Will add Meropenem to allergic reaction
   - Venturi FM/ Intermittent BIPAP
   - Chest PT
   - OOB to chair
   - Speech and swallow eval
   - PFTs and negative inspiratory force as out-patient to evaluate
   respiratory muscle function.
   - Azithromycin added for [**Last Name (LF) 2087**], [**First Name3 (LF) 178**] d/c if urine legionella
   negative
   - Urine legionella antigen; will d/c azithromycin if legionella
   negative.
   - Sputum / blood culture as able
   - Noninvasive ventilation as needed
   - Social work consult and family meeting to discuss goals of care
   # UTI/HEMATURIA: ongoing moderately high blood loss in urine, initially
   thought [**2-1**] to simple UTI but given volume concerning for other
   process. Denying complaints. h/o Cipro-R ecoli.
   - Will check urine cytology
   - Painless hematuria concerning for renal ca. Will defer CT scan for
   now due to respiratory issues, but can consider tomorrow if resp status
   improved
   - continue Aztreo/Linezolid
    - intermittent irrigation as needed
    - [**Hospital1 **] hct checks
    - f/u urine cx
   # RASH: likely drug reaction
    - consider derm consult if rash progresses
   # Lethargy/AMS:  Lethargy and minimalizing localizing symptoms.
   Present work-up notable for +UA (with history of Cipro-R E.coli) and
   CXR which appears more volume over-loaded than true PNA.  Afebrile,
   without leukocytosis.  Family notes h/o coughing.  Could also consider
   aspiration, viral vs [**Hospital1 2087**].  Also with hypercarbia that is
   definately contributing. Resolved with improvement in respiratory
   status.
   - Urine cultures
   - On Venturi facemask now.
   - Holding depakote given MS changes and elevated ammonia level
   - Hold Risperdal / Depakote given AMS
   - Monitor with serial ABGs
   - Will recheck Ammonia level on Fri AM labs
   # Hypertension: On Diltiazem as outpatient, currently being held given
   pressures.
   - Holding Dilt, but can restart if Pt tacchycardic or hypertensive
   # Peripheral vascular disease: Patient known chronic venous stasis
   changes & Proteus wound infections.
    - Monitor, lotion [**Hospital1 **]
   # Bipolar disorder:  On Risperdal / Depakote as outpatient.
    - Hold medications for AMS, plan to restart as able.
    - Check Depakote level; holding risperdal and depakote levels.
   # Diverticulosis: Patient h/o LGIB in [**2104**].  No c/o of pain at this
   time to indicate inflammation.
    - No e/o bleeding at this time
    - Continue bowel regimen
    - Monitor Hct
   # s/p CVA: Unclear what deficit remains and patient unable to provide
   further history. Will plan to discuss with daughter.  [**Name (NI) **] family,
   unable to move R arm and not ambulatory
    - Extensive Neuro exam once patient less lethargic
   # Urinary Incontinence: At baseline.
    - Foley in place
   FEN: Maintenance fluids (d5NS at 75/hr), replete electrolytes, NPO
   while on BiPAP
   - Clear liquids today and advance diet with improvement in mental
   status.
   Prophylaxis: Subcutaneous heparin
   Access: PIV, A Line
   Code: DNR/DNI  (confirmed with patient upon arrival to ICU)
   Communication: Patient & daughter
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-3-7**] 07:01 PM
   20 Gauge - [**2107-3-8**] 09:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-03-10 06:53:00 Physician Resident Progress Note
24 Hour Events:
   Pt w/ decreased UOP overnight. Given 500 cc bolus w/out improvement.
   Otherwise hemodynamically stable. Bladder irrigated, continues to
   drain
   Allergies:
   Ciprofloxacin
   Unknown;
   Penicillins
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2107-3-8**] 09:04 AM
   Meropenem - [**2107-3-8**] 10:00 AM
   Azithromycin - [**2107-3-9**] 02:00 AM
   Linezolid - [**2107-3-9**] 06:09 AM
   Aztreonam - [**2107-3-10**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-3-10**] 12:00 AM
   Diltiazem - [**2107-3-10**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-10**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.3
   HR: 82 (73 - 106) bpm
   BP: 108/62(81) {103/56(76) - 153/81(110)} mmHg
   RR: 20 (19 - 34) insp/min
   SpO2: 94%
   Heart rhythm: currently irregular, EKG pending
   Height: 64 Inch
             Total In:
                                                                  3,481 mL
                                                                    514 mL
   PO:
                                                                     45 mL
             TF:
   IVF:
                                                                  3,436 mL
                                                                    514 mL
   Blood products:
   Total out:
                                                                    455 mL
                                                                    115 mL
   Urine:
                                                                    455 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,026 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 81 (81 - 266) mL
   PS : 12 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 35%
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.32/70/64/34/6
   Ve: 4.4 L/min
   PaO2 / FiO2: 183
   Physical Examination
   Gen: NAD, AOX3
   Resp:CTA anteriorly
   Cards: rrr no m/r/g
   Abd: soft nt/nd
   Skin: Blanching fine macular rash posteriorly, extending to axilla
   bilaterally, and across anterior chest
   Ext: WWP, chronic venous stasis changes of bilateral lower extremities
   Labs / Radiology
   122 K/uL
   11.9 g/dL
   64 mg/dL
   0.3 mg/dL
   34 mEq/L
   4.0 mEq/L
   15 mg/dL
   101 mEq/L
   138 mEq/L
   38.8 %
   9.1 K/uL
        [image002.jpg]
                                                                [**2107-3-9**]
                                                                    11:06p
   _______________________________________________________________________
                                                                [**2107-3-10**]
                                                                    08:16a
   _______________________________________________________________________
                                     pH
                                    7.35
                                    pCO2
                                     63
                                     pO2
                                     46
                                    HCO3
                                     36
                                   BaseXS
                                      6
   Type:Central Venous; Not Intubated; Vent:Spontaneous; Ps 12; FiO2%:35;
   Rate:/23; PEEP:8; Temp:36.9
                                     pH
                                    7.32
                                    pCO2
                                     70
                                     pO2
                                     64
                                    HCO3
                                     38
                                   BaseXS
                                      6
   Comments:
   pCO2: Verified
   pCO2: No Calls Made - Same Abnormality Previously Noted Today
   Type:Art; Not Intubated; Vent:Spontaneous; FiO2%:35; Rate:/27; TV:250;
   PEEP:8; Temp:35.5
   Lactate:0.8
                             [**2107-3-8**]  10:46 AM
                             [**2107-3-8**]  03:30 PM
                             [**2107-3-8**]  03:51 PM
                             [**2107-3-8**]  06:35 PM
                             [**2107-3-9**]  02:14 AM
                             [**2107-3-9**]  02:24 AM
                             [**2107-3-9**]  12:43 PM
                             [**2107-3-9**]  02:48 PM
                             [**2107-3-9**]  11:06 PM
                             [**2107-3-10**]  04:00 AM
   WBC
   8.5
   9.4
   9.1
   Hct
   44.5
   42.1
   41.7
   38.8
   Plt
   140
   134
   122
   Cr
   0.3
   0.3
   0.3
   TCO2
   38
   44
   37
   37
   31
   38
   Glucose
   103
   82
   64
   Other labs: PT / PTT / INR:12.0/40.1/1.0, ALT / AST:[**6-18**], Alk Phos / T
   Bili:52/0.3, Differential-Neuts:79.0 %, Band:0.0 %, Lymph:9.0 %,
   Mono:9.0 %, Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL,
   LDH:252 IU/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:1.4 mg/dL
   No new cultures.
   Assessment and Plan
   78F HTN, CVA c R hemiplegia, PVD, bipolar d/o admitted with
   acute-on-chronic hypercarbic respiratory failure and probable UTI, PNA
   with increasingly productive cough, on NPPV much of the time.
   # Hypercarbic Respiratoy Failure: Acute on chronic. Suspect
   multifactorial including chronic hypercarbia at baseline +/- excess
   volume +/- infection. Continues to have radiographic e/o PNA on CXR.
   Baseline HCO3 30, 38 on admission. No evidence of PE on CTA. s/p
   tracheostomy in [**4-/2096**] [**2-1**] incarcerated hernia repair and failure to
   wean. Unclear if aspiration risk but on po diet at NS.
   - Continue linezolid/aztreonam
   - Venturi FM/ Intermittent BIPAP
   - LOS fluid positive, appearing hypervolemic on exam, will plan to
   diurese today
   - Chest PT
   - OOB to chair
   - Speech and swallow eval: not able to take POs
   - PFTs and negative inspiratory force as out-patient to evaluate
   respiratory muscle function.
   - Azithromycin added for [**Last Name (LF) 2087**], [**First Name3 (LF) 178**] d/c if urine legionella
   negative
   - Urine legionella antigen negative; azithromycin d/c
   - Sputum / blood culture as able
   - Continue noninvasive ventilation as needed
   - Social work consult and family meeting to discuss goals of care
   # Atrial Fibrilation: new AF as of this morning. No history of AF per
   documentation. On IV dilt 10 q6.
   - will diurese as above
   - check EKG
   - check ECHO (? effusion)
   - cycle cardiac enzymes
   - check TFTs
   - switch dilt to gtt
   # UTI/HEMATURIA: ongoing moderately high blood loss in urine, initially
   thought [**2-1**] to simple UTI but given volume concerning for other
   process. No clots. Denying complaints. h/o Cipro-R ecoli.
   - defer more extensive w/u to outpatient provided pt remains stable
   - will defer urology c/s at this time
   - continue Aztreo/Linezolid
   - intermittent irrigation as needed
   - [**Hospital1 **] hct checks
   - f/u urine cx
   # Low urine output
   - Suspect may be related to renal dysfunction/hematuria. Pt w/ low UPO
   despite boluses, and w/ normal MAP
   - Consider urology consult in AM
   # Nutrition: currently not able to take PO safely per speech and
   swallow
    - consider Dobhoff for short-term nutritional support
    - will discuss with daughter at family meeting today
   # RASH: likely drug reaction, appears to be resolving
    - consider derm consult if rash progresses
   # Lethargy/AMS:  Lethargy and minimalizing localizing symptoms.
   Present work-up notable for +UA (with history of Cipro-R E.coli) and
   CXR which appears more volume over-loaded than true PNA.  Afebrile,
   without leukocytosis.  Family notes h/o coughing.  Could also consider
   aspiration, viral vs [**Hospital1 2087**].  Also with hypercarbia that is
   definately contributing. Resolved with improvement in respiratory
   status.
   - Urine cultures
   - On Venturi facemask now.
   - Holding depakote given MS changes and elevated ammonia level
   - Hold Risperdal / Depakote given AMS
   - Monitor with serial ABGs
   - Will recheck Ammonia level on Fri AM labs
   # Hypertension: On Diltiazem as outpatient, currently being held given
   pressures.
   - Holding Dilt, but can restart if Pt tacchycardic or hypertensive
   # Peripheral vascular disease: Patient known chronic venous stasis
   changes & Proteus wound infections.
    - Monitor, lotion [**Hospital1 **]
   # Bipolar disorder: On Risperdal / Depakote as outpatient.
    - Hold medications for AMS, plan to restart as able.
    - Check Depakote level; holding risperdal and depakote levels.
   # Diverticulosis: Patient h/o LGIB in [**2104**].  No c/o of pain at this
   time to indicate inflammation.
    - No e/o bleeding at this time
    - Continue bowel regimen
    - Monitor Hct
   # s/p CVA: Unclear what deficit remains and patient unable to provide
   further history. Will plan to discuss with daughter.  [**Name (NI) **] family,
   unable to move R arm and not ambulatory
    - Extensive Neuro exam once patient less lethargic
   # Urinary Incontinence: At baseline.
    - Foley in place
   FEN: No IVF, diurese, replete electrolytes, NPO while on BiPAP, will
   discuss Dobhoff option as above
   Prophylaxis: Subcutaneous heparin
   Access: PIV, A Line
   Code: DNR/DNI  (confirmed with patient upon arrival to ICU)
   Communication: Patient & daughter
   Disposition: ICU pending clinical improvement; likely transfer to MACU
   in next few days
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-3-7**] 07:01 PM
   20 Gauge - [**2107-3-8**] 09:20 AM
   PICC Line - [**2107-3-9**] 10:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2107-03-11 07:20:00 Physician Resident Progress Note
24 Hour Events:
   [**2107-3-10**]:
   Overnight Pt noted to be agitated. Given 0.525 mg IV lorazepam w/ good
   effect. Echo with likely dCHF but LVEF > 75%. Family meeting went well
   - discussed d/c  options. Plan for D/C in next few days to MACU.
   Allergies:
   Ciprofloxacin
   Unknown;
   Penicillins
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2107-3-8**] 09:04 AM
   Meropenem - [**2107-3-8**] 10:00 AM
   Azithromycin - [**2107-3-9**] 02:00 AM
   Linezolid - [**2107-3-10**] 06:00 PM
   Aztreonam - [**2107-3-10**] 11:40 PM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2107-3-10**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2107-3-10**] 11:40 PM
   Furosemide (Lasix) - [**2107-3-11**] 01:22 AM
   Metoprolol - [**2107-3-11**] 05:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-11**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.4
C (95.7
   HR: 94 (72 - 133) bpm
   BP: 135/86(108) {85/56(68) - 185/103(130)} mmHg
   RR: 33 (18 - 40) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,930 mL
                                                                    645 mL
   PO:
             TF:
   IVF:
                                                                  1,930 mL
                                                                    645 mL
   Blood products:
   Total out:
                                                                  2,376 mL
                                                                  1,020 mL
   Urine:
                                                                  2,376 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -446 mL
                                                                   -375 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 272 (176 - 342) mL
   PS : 12 cmH2O
   RR (Spontaneous): 34
   PEEP: 8 cmH2O
   FiO2: 35%
   PIP: 21 cmH2O
   SpO2: 92%
   ABG: 7.39/67/78.[**Numeric Identifier 244**]/38/11
   Ve: 7.2 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Gen: Somnolent, arouses with name calling and sternal rub but does not
   answer simple questions. Falls asleep after opening eyes
   Cards: rrr, no m/r/g
   Resp: CTA anteriorly
   Abd: soft, nt/nd, +BS
   Ext: Chronic venous stasis changes of LE, no clubbing, cyanosis, edema
   Labs / Radiology
   142 K/uL
   11.9 g/dL
   75 mg/dL
   0.4 mg/dL
   38 mEq/L
   4.0 mEq/L
   11 mg/dL
   95 mEq/L
   138 mEq/L
   38.4 %
   7.7 K/uL
        [image002.jpg]
                                                                [**2107-3-11**]
                                                                    04:47a
   _______________________________________________________________________
                                     pH
                                    7.39
                                    pCO2
                                     67
                                     pO2
                                     79
                                    HCO3
                                     42
                                   BaseXS
                                     11
   Comments:
   pCO2: Verified
   pCO2: No Calls Made - Same Abnormality Previously Noted Today
   Type:Art
   Lactate:0.9
   Ammonia: 26
   Troponin <.01 X 3
                             [**2107-3-9**]  02:14 AM
                             [**2107-3-9**]  02:24 AM
                             [**2107-3-9**]  12:43 PM
                             [**2107-3-9**]  02:48 PM
                             [**2107-3-9**]  11:06 PM
                             [**2107-3-10**]  04:00 AM
                             [**2107-3-10**]  02:57 PM
                             [**2107-3-10**]  10:51 PM
                             [**2107-3-11**]  04:29 AM
                             [**2107-3-11**]  04:47 AM
   WBC
   9.4
   9.1
   7.7
   Hct
   42.1
   41.7
   38.8
   40.5
   38.4
   Plt
   134
   122
   142
   Cr
   0.3
   0.3
   0.4
   0.4
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   37
   31
   38
   42
   Glucose
   82
   64
   74
   75
   Other labs: PT / PTT / INR:12.0/40.1/1.0, CK / CKMB /
   Troponin-T:39/5/<0.01, ALT / AST:[**6-18**], Alk Phos / T Bili:52/0.3,
   Differential-Neuts:79.0 %, Band:0.0 %, Lymph:9.0 %, Mono:9.0 %, Eos:2.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:252 IU/L, Ca++:8.5
   mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Cardiac Echo report:
   IMPRESSION: Small LV cavity size with mild symmetric LVH and
   hyperdynamic LV systolic function. Abnormal LVOT systolic flow contour
   without frank obstruction. Probable diastolic dysfunction. Mild
   pulmonary artery systolic hypertension. Calcified mitral and aortic
   valve without significant stenosis or regurgitation.
   Assessment and Plan
   78F HTN, CVA c R hemiplegia, PVD, bipolar d/o admitted with
   acute-on-chronic hypercarbic respiratory failure and probable UTI, PNA
   with increasingly productive cough, on NPPV much of the time.
   # Hypercarbic Respiratoy Failure: Acute on chronic. Suspect
   multifactorial including chronic hypercarbia at baseline +/- excess
   volume +/- infection. Continues to have radiographic e/o PNA on CXR.
   Baseline HCO3 30, 38 on admission. No evidence of PE on CTA. s/p
   tracheostomy in [**4-/2096**] [**2-1**] incarcerated hernia repair and failure to
   wean. Unclear if aspiration risk but on po diet at NS.
   - Continue linezolid/aztreonam
   - Venturi FM/ Intermittent BIPAP
   - Pt diuresed w/ 60 mg IV lasix yesterday, negative approx 500 cc for
   the day
   - OOB to chair
   - Repeat S+S eval as Pt refusing NG tube and PEG, and currently
   significant aspiration risk
   - PFTs and negative inspiratory force as out-patient to evaluate
   respiratory muscle function.
   - Sputum / blood culture as able
   - Continue noninvasive ventilation as needed
   - Social work consult and family meeting to discuss goals of care
   # Atrial Fibrilation: new AF as of this morning. No history of AF per
   documentation. On IV dilt 10 q6.
   - Continue diuresis w/ 40 IV lasix this AM
   - Continue Metoprolol 5 mg IV q6h
   - cycle cardiac enzymes--
 negative X3
   - check TFTs
   - switch dilt to gtt
   # UTI/HEMATURIA: ongoing moderately high blood loss in urine, initially
   thought [**2-1**] to simple UTI but given volume concerning for other
   process. No clots. Denying complaints. h/o Cipro-R ecoli.
   - defer more extensive w/u to outpatient provided pt remains stable
   - will defer urology c/s at this time
   - continue Aztreo/Linezolid
   - intermittent irrigation as needed
   - [**Hospital1 **] hct checks
   - f/u urine cx
   - Outpatient urology w/u
   # Low urine output
   - Suspect may be related to renal dysfunction/hematuria. Pt w/ low UPO
   despite boluses, and w/ normal MAP
   # Nutrition: currently not able to take PO safely per speech and
   swallow
   -Pt refusing Dobhoff and PEG
   -
   # RASH: likely drug reaction, appears to be resolving
    - consider derm consult if rash progresses
   # Lethargy/AMS:  Lethargy and minimalizing localizing symptoms.
   Present work-up notable for +UA (with history of Cipro-R E.coli) and
   CXR which appears more volume over-loaded than true PNA.  Afebrile,
   without leukocytosis.  Family notes h/o coughing.  Could also consider
   aspiration, viral vs atypicals.  Also with hypercarbia that is
   definately contributing. Resolved with improvement in respiratory
   status.
   - Urine cultures
   - On Venturi facemask now.
   - Holding depakote given MS changes and elevated ammonia level
   - Ammonia level normalized now. Suspect adverse effect from Depakote
   - Hold Risperdal / Depakote given AMS
   - Monitor with serial ABGs
   - Will recheck Ammonia level on Fri AM labs
   # Hypertension: On Diltiazem as outpatient, currently being held given
   pressures.
   - Holding Dilt, but can restart if Pt tacchycardic or hypertensive
   # Peripheral vascular disease: Patient known chronic venous stasis
   changes & Proteus wound infections.
    - Monitor, lotion [**Hospital1 **]
   # Bipolar disorder: On Risperdal / Depakote as outpatient.
    - Hold medications for AMS, plan to restart as able.
    - Check Depakote level; holding risperdal and depakote levels.
   # Diverticulosis: Patient h/o LGIB in [**2104**].  No c/o of pain at this
   time to indicate inflammation.
    - No e/o bleeding at this time
    - Continue bowel regimen
    - Monitor Hct
   # s/p CVA: Unclear what deficit remains and patient unable to provide
   further history. Will plan to discuss with daughter.  [**Name (NI) **] family,
   unable to move R arm and not ambulatory
    - Extensive Neuro exam once patient less lethargic
   # Urinary Incontinence: At baseline.
    - Foley in place
   FEN: No IVF, diurese, replete electrolytes, NPO while on BiPAP, will
   discuss Dobhoff option as above
   Prophylaxis: Subcutaneous heparin
   Access: PIV, A Line
   Code: DNR/DNI  (confirmed with patient upon arrival to ICU)
   Communication: Patient & daughter
   Disposition: ICU pending clinical improvement; likely transfer to MACU
   in next few days
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-3-7**] 07:01 PM
   20 Gauge - [**2107-3-8**] 09:20 AM
   PICC Line - [**2107-3-9**] 10:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2107-03-12 08:07:00 Physician Resident Progress Note
24 Hour Events:
   Allergies:
   Ciprofloxacin
   Unknown;
   Penicillins
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Meropenem
   Rash;
   Ativan (Oral) (Lorazepam)
   delirium;
   Depakote (Oral) (Divalproex Sodium)
   Hyperammonia;
   Last dose of Antibiotics:
   Linezolid - [**2107-3-11**] 06:06 PM
   Aztreonam - [**2107-3-12**] 12:14 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2107-3-11**] 11:07 AM
   Furosemide (Lasix) - [**2107-3-11**] 12:58 PM
   Heparin Sodium (Prophylaxis) - [**2107-3-12**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-12**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.8
C (96.5
   HR: 98 (78 - 108) bpm
   BP: 142/86(110) {112/64(84) - 149/124(136)} mmHg
   RR: 29 (17 - 41) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,380 mL
                                                                    210 mL
   PO:
             TF:
   IVF:
                                                                  1,380 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,930 mL
                                                                    330 mL
   Urine:
                                                                  1,930 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -550 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 295 (188 - 390) mL
   PS : 12 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 35%
   PIP: 22 cmH2O
   SpO2: 91%
   ABG: 7.32/77.[**Numeric Identifier 96**]/86/40/9
   Ve: 5.1 L/min
   PaO2 / FiO2: 246
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   123 K/uL
   11.8 g/dL
   65 mg/dL
   0.3 mg/dL
   40 mEq/L
   3.5 mEq/L
   10 mg/dL
   95 mEq/L
   140 mEq/L
   39.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2107-3-10**]  04:00 AM
                             [**2107-3-10**]  02:57 PM
                             [**2107-3-10**]  10:51 PM
                             [**2107-3-11**]  04:29 AM
                             [**2107-3-11**]  04:47 AM
                             [**2107-3-11**]  01:01 PM
                             [**2107-3-11**]  02:53 PM
                             [**2107-3-12**]  03:03 AM
                             [**2107-3-12**]  03:27 AM
                             [**2107-3-12**]  06:53 AM
   WBC
   9.1
   7.7
   6.0
   Hct
   38.8
   40.5
   38.4
   39.8
   Plt
   122
   142
   123
   Cr
   0.3
   0.4
   0.4
   0.3
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   42
   40
   44
   39
   42
   Glucose
   64
   74
   75
   65
   Other labs: PT / PTT / INR:11.8/40.1/1.0, CK / CKMB /
   Troponin-T:39/5/<0.01, ALT / AST:[**8-17**], Alk Phos / T Bili:57/0.3,
   Differential-Neuts:72.1 %, Band:0.0 %, Lymph:16.7 %, Mono:8.1 %,
   Eos:2.9 %, Lactic Acid:0.6 mmol/L, Albumin:3.0 g/dL, LDH:252 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
                                                                [**2107-3-12**]
                                                                    06:53a
   _______________________________________________________________________
                                     pH
                                    7.32
                                    pCO2
                                     78
                                     pO2
                                     86
                                    HCO3
                                     42
                                   BaseXS
                                      9
   Assessment and Plan
   78F HTN, CVA c R hemiplegia, PVD, bipolar d/o admitted with
   acute-on-chronic hypercarbic respiratory failure and probable UTI, PNA
   with increasingly productive cough, on NPPV much of the time.
   # Hypercarbic Respiratory Failure: Acute on chronic. Suspect
   multifactorial including chronic hypercarbia at baseline +/- excess
   volume +/- infection. Continues to have radiographic e/o PNA on CXR.
   Baseline HCO3 30, 38 on admission. No evidence of PE on CTA. s/p
   tracheostomy in [**4-/2096**] [**2-1**] incarcerated hernia repair and failure to
   wean. Unclear if aspiration risk but on po diet at NS.  Ammonia level
   has come down since stopping depakote.  Failed S&S test yesterday
   - Follow ABG
   - Continue linezolid/aztreonam
   - Venturi FM/ Intermittent BIPAP
   - Pt diuresed w/ 60 mg IV lasix yesterday, negative approx 500 cc for
   the day
 will give additional Lasix with goal -1L today
   - OOB to chair
   - PFTs and negative inspiratory force as out-patient to evaluate
   respiratory muscle function.
   - Sputum / blood culture as able
   - Continue noninvasive ventilation as needed
   - Social work consult and family meeting to discuss goals of care
   # Atrial Fibrilation: new AF as of this morning. No history of AF per
   documentation. On IV dilt 10 q6 if HR>160 prn.  Was given lopressor
   yesterday.  CE negative.  TSH normal
   - Continue diuresis w/ 40 IV lasix this AM
   - Give diltiazem IV prn for tachycardia, avoid beta blocker as may have
   worsened her resp. status
   - cycle cardiac enzymes--
 negative X3
   - switch dilt to gtt
   # Lethargy/AMS:  Pt. more disoriented after getting low dose of Ativan
   for agitation overnight [**3-10**].  Present work-up notable for +UA (with
   history of Cipro-R E.coli) and CXR which appears more volume
   over-loaded than true PNA.  Afebrile, without leukocytosis.  Family
   notes h/o coughing.  Could also consider aspiration, viral vs
   atypicals.  Also with hypercarbia that is definately contributing.
   Resolved with improvement in respiratory status.
   - DC ativan and add to allergy list
   - F/U Urine cultures
   - On Venturi facemask now.
   - Holding depakote given MS changes and elevated ammonia level
   - Ammonia level normalized now. Suspect adverse effect from Depakote
   - Hold Risperdal / Depakote given AMS
   - Monitor with serial ABGs
   - Will recheck Ammonia level on Fri AM labs
   # UTI/HEMATURIA: ongoing moderately high blood loss in urine, initially
   thought [**2-1**] to simple UTI but given volume concerning for other
   process. No clots. Denying complaints. h/o Cipro-R ecoli.
   - defer more extensive w/u to outpatient provided pt remains stable
   - will defer urology c/s at this time
   - continue Aztreo/Linezolid
   - intermittent irrigation as needed
   - [**Hospital1 **] hct checks
   - f/u urine cx
   - Outpatient urology w/u
   # Low urine output
 Improved on Lasix
   - Continue Lasix with goal of -1L today.
   # Nutrition: currently not able to take PO safely per speech and
   swallow
   -Pt refusing Dobhoff and PEG
   -
   # RASH: likely drug reaction, back appears somewhat more red in
   dependent areas
    - continue to monitor and consider derm consult if worsening
   # Hypertension: On Diltiazem as outpatient, currently being held given
   pressures.
   - Holding Dilt, but can restart if Pt tachycardic or hypertensive
   # Peripheral vascular disease: Patient known chronic venous stasis
   changes & Proteus wound infections.
    - Monitor, lotion [**Hospital1 **]
   # Bipolar disorder: On Risperdal / Depakote as outpatient.
    - Hold medications for AMS, plan to restart as able.
    - Check Depakote level; holding risperdal and depakote.
   # Diverticulosis: Patient h/o LGIB in [**2104**].  No c/o of pain at this
   time to indicate inflammation.
    - No e/o bleeding at this time
    - Continue bowel regimen
    - Monitor Hct
   # s/p CVA: Unclear what deficit remains and patient unable to provide
   further history.  Per family, unable to move R arm and not ambulatory
    - Extensive Neuro exam once patient less lethargic
   # Urinary Incontinence: At baseline.
    - Foley in place
   FEN: No IVF, diurese, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin
   Access: PIV, A Line, PICC
   Code: DNR/DNI  (confirmed with patient upon arrival to ICU)
   Communication: Patient & daughter [**Name (NI) 1040**]
   Disposition: ICU pending clinical improvement; likely transfer to MACU
   in next few days
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-3-7**] 07:01 PM
   20 Gauge - [**2107-3-8**] 09:20 AM
   PICC Line - [**2107-3-9**] 10:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2107-03-13 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt did well overall. [**Doctor First Name 16**] had extensive discussion w/ Pt about options
   for feeding. Pt upset and wants to discuss options with her daughter
   and sister on [**Name (NI) 2052**].  Pt maintained on venturi mask throughout the day
   did well. Can be screened for rehab MACU placement on [**Name (NI) 2052**] for
   possible d/c Monday if otherwise HD stable. Gave 20 IV lasix X 1 in the
   AM.
   Allergies:
   Ciprofloxacin
   Unknown;
   Penicillins
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Meropenem
   Rash;
   Ativan (Oral) (Lorazepam)
   delirium;
   Depakote (Oral) (Divalproex Sodium)
   Hyperammonia;
   Last dose of Antibiotics:
   Linezolid - [**2107-3-12**] 06:20 PM
   Aztreonam - [**2107-3-13**] 12:20 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2107-3-12**] 01:16 PM
   Heparin Sodium (Prophylaxis) - [**2107-3-13**] 12:20 AM
   Diltiazem - [**2107-3-13**] 12:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-13**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 89 (89 - 111) bpm
   BP: 140/70(96) {123/67(90) - 169/129(141)} mmHg
   RR: 25 (18 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,548 mL
                                                                    175 mL
   PO:
             TF:
   IVF:
                                                                  1,548 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    315 mL
   Urine:
                                                                  2,440 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -893 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: 7.33/73.[**Numeric Identifier 607**]/78.[**Numeric Identifier 244**]/41/8
   PaO2 / FiO2: 226
   Physical Examination
   Gen:  NAD
   Pulm:
   CV:  RRR
   Abd:
   Peripheral Vascular:
   Skin:  warm, dry
   Neurologic: alert, responds appropriately to questions
   Labs / Radiology
   126 K/uL
   11.8 g/dL
   74 mg/dL
   0.3 mg/dL
   41 mEq/L
   3.5 mEq/L
   7 mg/dL
   96 mEq/L
   142 mEq/L
   38.6 %
   5.1 K/uL
        [image002.jpg]
                             [**2107-3-10**]  10:51 PM
                             [**2107-3-11**]  04:29 AM
                             [**2107-3-11**]  04:47 AM
                             [**2107-3-11**]  01:01 PM
                             [**2107-3-11**]  02:53 PM
                             [**2107-3-12**]  03:03 AM
                             [**2107-3-12**]  03:27 AM
                             [**2107-3-12**]  06:53 AM
                             [**2107-3-13**]  03:45 AM
                             [**2107-3-13**]  04:03 AM
   WBC
   7.7
   6.0
   5.1
   Hct
   38.4
   39.8
   38.6
   Plt
   142
   123
   126
   Cr
   0.4
   0.3
   0.3
   TropT
   <0.01
   TCO2
   42
   40
   44
   39
   42
   40
   Glucose
   75
   65
   74
   Other labs: PT / PTT / INR:11.8/40.1/1.0, CK / CKMB /
   Troponin-T:39/5/<0.01, ALT / AST:[**8-17**], Alk Phos / T Bili:57/0.3,
   Differential-Neuts:72.1 %, Band:0.0 %, Lymph:16.7 %, Mono:8.1 %,
   Eos:2.9 %, Lactic Acid:0.6 mmol/L, Albumin:3.0 g/dL, LDH:252 IU/L,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   78F HTN, CVA c R hemiplegia, PVD, bipolar d/o admitted with
   acute-on-chronic hypercarbic respiratory failure and probable UTI, PNA
   with increasingly productive cough, on NPPV much of the time.
   # Hypercarbic Respiratory Failure: Acute on chronic. Suspect
   multifactorial including chronic hypercarbia at baseline +/- excess
   volume +/- infection. Continues to have radiographic e/o PNA on CXR.
   Baseline HCO3 30, 38 on admission. No evidence of PE on CTA. s/p
   tracheostomy in [**4-/2096**] [**2-1**] incarcerated hernia repair and failure to
   wean. Unclear if aspiration risk but on po diet at NS.  Ammonia level
   has come down since stopping depakote.  Failed S&S test.
   - Follow ABG
   - Continue linezolid/aztreonam
   - Venturi FM/ Intermittent BIPAP
   -  Lasix 20 mg IV today
   - OOB to chair
   - PFTs and negative inspiratory force as out-patient to evaluate
   respiratory muscle function.
   - F/U culture
   - Continue noninvasive ventilation as needed
   - Social work consult and family meeting to discuss goals of care
   # Nutritional Status:  Failed speech and swallow and has refused
   Dobhoff/PEG.  Discussed TPN, however this is not an effective bridge to
   a definitive therapy.
   -  Have speech evaluate today
   - Continue to discuss with family
   # Atrial Fibrilation: new AF v. PVCs on [**3-10**]. No history of AF per
   documentation. On IV dilt 10 q6 if HR>160 prn.  Was given lopressor ,
   however may have contributed to worsening respiratory status. CE
   negative.  TSH normal
   - Continue diuresis
   - Give diltiazem IV prn for tachycardia, avoid beta blocker as may have
   worsened her resp. status
   - cycle cardiac enzymes--
 negative X3
   # Lethargy/AMS:  Pt. more disoriented after getting low dose of Ativan
   for agitation overnight [**3-10**].  Present work-up notable for +UA (with
   history of Cipro-R E.coli) and CXR which appears more volume
   over-loaded than true PNA.  Afebrile, without leukocytosis.  Family
   notes h/o coughing.  Could also consider aspiration, viral vs
   atypicals.  Also with hypercarbia that is definitely contributing.
   Resolved with improvement in respiratory status.
   - DC ativan and add to allergy list
   - F/U Urine cultures
   - On Venturi facemask now.
   - Holding depakote given MS changes and elevated ammonia level
   - Ammonia level normalized now. Suspect adverse effect from Depakote
   - Monitor with serial ABGs
   # UTI/HEMATURIA: ongoing moderately high blood loss in urine, initially
   thought [**2-1**] to simple UTI but given volume concerning for other
   process. No clots. Denying complaints. h/o Cipro-R ecoli.
   - defer more extensive w/u to outpatient provided pt remains stable
   - will defer urology c/s at this time
   - continue Aztreo/Linezolid
   - intermittent irrigation as needed
   - QD hct checks
   - f/u urine cx
   - Outpatient urology w/u
   # Low urine output
 Improved on Lasix
   - Continue Lasix with goal of -500cc today.
   # RASH: likely drug reaction, back appears somewhat more red in
   dependent areas
    - continue to monitor and consider derm consult if worsening
   # Hypertension: On Diltiazem as outpatient, currently being held given
   pressures.
   - Holding Dilt, but can restart if Pt tachycardic or hypertensive
   # Peripheral vascular disease: Patient known chronic venous stasis
   changes & Proteus wound infections.
    - Monitor, lotion [**Hospital1 **]
   # Bipolar disorder: On Risperdal / Depakote as outpatient.
    - Hold medications for AMS, plan to restart as able.
    - Check Depakote level; holding risperdal and depakote.
   # Diverticulosis: Patient h/o LGIB in [**2104**].  No c/o of pain at this
   time to indicate inflammation.
    - No e/o bleeding at this time
    - Continue bowel regimen
    - Monitor Hct
   # s/p CVA: Unclear what deficit remains and patient unable to provide
   further history.  Per family, unable to move R arm and not ambulatory
    - Extensive Neuro exam once patient less lethargic
   # Urinary Incontinence: At baseline.
    - Foley in place
   FEN: No IVF, diurese, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin
   Access: PIV, A Line, PICC
   Code: DNR/DNI  (confirmed with patient upon arrival to ICU)
   Communication: Patient & daughter [**Name (NI) 1040**]
   Disposition: ICU pending clinical improvement; likely transfer to MACU
   in next few days
   ------ Protected Section ------
   CC: resp failure
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   78F HTN, CVA c R hemiplegia, PVD, bipolar d/o admitted with
   acute-on-chronic hypercarbic respiratory failure in the setting of BLL
   pneumonia, probably due to aspiration. Back in NSR, echo with small LV,
   elevated EF, mild PHTN.
   Exam notable for Tm 96.7 BP 140/73 HR 78-108 RR 22 with sat 92 on
   0.35FM 7.32/78/86 on FM. Intermittently requiring NIPPV for hypercarbic
   resp failure with mental status changes. TBB -550cc/24.
   Currently awake, alert, smiling, responding to questions. Coarse BS,
   [**Month (only) **] B bases. RRR s1s2. Soft +BS, chronic stasis changes. Diffuse
   erythematous blanching rash, stable according to house staff.
   Labs notable for WBC 6K, HCT 40, K+ 3.5, Cr 0.3. CXR unchanged BLL ASD.
   Agree with plan to manage acute-on-chronic hypercarbic respiratory
   failure with NPPV PRN, though currently well on FM, continue treatment
   of HAP with linezolid / aztronam as well as repeat lasix for pulmonary
   edema.
   For AF c RVR - dilt IV, gentle diuresis; could add dig if rate remains
   high and BP trends down. Gross hematuria has resolved. Failed S+S - pt
   / family does not want doboff or PEG. Will discuss with pt and family
   that she could try thickened dysphagia diet at risk of aspiration and
   death, or will be NPO given her requests. OOB to chair. CM to screen
   for LTAC level of care. DNR/I. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-3-7**] 07:01 PM
   20 Gauge - [**2107-3-8**] 09:20 AM
   PICC Line - [**2107-3-9**] 10:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2107-03-14 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Plan yesterday was for pt. to be called out to floor, however the team
   evaluated her and felt she was not appropriate for the floor.  She
   intermittently was tachy in A. Fib/flutter to the 140s.  Received IV
   diltiazem.
   Allergies:
   Ciprofloxacin
   Unknown;
   Penicillins
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Meropenem
   Rash;
   Ativan (Oral) (Lorazepam)
   delirium;
   Depakote (Oral) (Divalproex Sodium)
   Hyperammonia;
   Last dose of Antibiotics:
   Aztreonam - [**2107-3-14**] 01:04 AM
   Linezolid - [**2107-3-14**] 05:05 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2107-3-13**] 12:52 PM
   Hydralazine - [**2107-3-13**] 06:12 PM
   Diltiazem - [**2107-3-13**] 11:44 PM
   Heparin Sodium (Prophylaxis) - [**2107-3-14**] 01:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-14**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 114 (91 - 144) bpm
   BP: 115/71(88) {90/51(66) - 194/129(157)} mmHg
   RR: 27 (20 - 37) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,340 mL
                                                                    551 mL
   PO:
             TF:
   IVF:
                                                                  2,340 mL
                                                                    551 mL
   Blood products:
   Total out:
                                                                  1,430 mL
                                                                    210 mL
   Urine:
                                                                  1,430 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    910 mL
                                                                    341 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.29/86.[**Numeric Identifier 96**]/91.[**Numeric Identifier 96**]/41/11
   PaO2 / FiO2: 263
   Physical Examination
   Gen: NAD, easily arousable
   Pulm:  CTAB anteriorly
   CV: irregular, 2/6 systolic murmur at LSB
   Abd: soft, NT/ND, + BS
   Peripheral Vascular: severe peripheral vascular disease of BLE with
   drak almost blac skin to top of calf, no drainage
   Skin:  otherwise warm and dry
   Neurologic: alert, oriented, no new focal deficits
   Labs / Radiology
   143 K/uL
   11.5 g/dL
   77 mg/dL
   0.3 mg/dL
   41 mEq/L
   3.5 mEq/L
   6 mg/dL
   97 mEq/L
   144 mEq/L
   37.4 %
   5.6 K/uL
        [image002.jpg]
                             [**2107-3-11**]  01:01 PM
                             [**2107-3-11**]  02:53 PM
                             [**2107-3-12**]  03:03 AM
                             [**2107-3-12**]  03:27 AM
                             [**2107-3-12**]  06:53 AM
                             [**2107-3-13**]  03:45 AM
                             [**2107-3-13**]  04:03 AM
                             [**2107-3-14**]  02:15 AM
                             [**2107-3-14**]  02:28 AM
                             [**2107-3-14**]  06:05 AM
   WBC
   6.0
   5.1
   5.6
   Hct
   39.8
   38.6
   37.4
   Plt
   123
   126
   143
   Cr
   0.3
   0.3
   0.3
   TCO2
   40
   44
   39
   42
   40
   43
   44
   Glucose
   65
   74
   77
   Other labs: PT / PTT / INR:12.3/37.3/1.0, CK / CKMB /
   Troponin-T:39/5/<0.01, ALT / AST:[**8-17**], Alk Phos / T Bili:57/0.3,
   Differential-Neuts:72.1 %, Band:0.0 %, Lymph:16.7 %, Mono:8.1 %,
   Eos:2.9 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:252 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   78F HTN, CVA c R hemiplegia, PVD, bipolar d/o admitted with
   acute-on-chronic hypercarbic respiratory failure and probable UTI, PNA
   with increasingly productive cough, on NPPV much of the time.
   # Atrial Fibrilation: new AF. No history of AF per documentation. On IV
   dilt 10 q6 if HR>160 pr.  Was given lopressor , however may have
   contributed to worsening respiratory status. CE negative.  TSH normal.
   Got diltiazem 10mg IV
   - Starting diltiazem drip titrated to HR <110, SBP >80
   - EKG
   - Transition to PO diltiazem pending passing speech and swallow
   evaluation today.
   - Given history of strokes, will discuss anticoagulation; holding off
   now because may get PEG
   .
   # Hypercarbic Respiratory Failure: Acute on chronic. Suspect
   multifactorial including chronic hypercarbia at baseline +/- excess
   volume +/- infection. Continues to have radiographic e/o PNA on CXR.
   Baseline HCO3 30, 38 on admission. No evidence of PE on CTA. s/p
   tracheostomy in [**4-/2096**] [**2-1**] incarcerated hernia repair and failure to
   wean. Unclear if aspiration risk but on po diet at NS.  Ammonia level
   has come down since stopping depakote.  Failed S&S test.
   - Continue linezolid/aztreonam for total of [**10-13**] days
   - Continue NC as needed, maintain O2 sat > 92%
   - Acquire ABG based on worsening mental status and O2 sat <92%, CO2 <90
   - Lasix 20mg IV x1 today, follow UOP for goal euvolemic
   - PFTs and negative inspiratory force as out-patient to evaluate
   respiratory muscle function.
   - F/U culture
   - Continue noninvasive ventilation as needed
   - Social work consult and family meeting to discuss goals of care
   # Nutritional Status:  Failed speech and swallow and has refused
   Dobhoff/PEG.  Discussed TPN, however this is not an effective bridge to
   a definitive therapy.
   -  Speech and swallow evaluation today
   - Continue to discuss with family
   # Lethargy/AMS:  At baseline today. Agitated, anxious overnight.
   Present work-up notable for +UA (with history of Cipro-R E.coli) and
   CXR which appears more volume over-loaded than true PNA.  Afebrile,
   without leukocytosis.  Family notes h/o coughing.  Could also consider
   aspiration, viral vs atypicals.  Also with hypercarbia that is
   definitely contributing. Resolved with improvement in respiratory
   status.
   - Continue Zydis; will not give Ativan.
   - Will start  home risperdal dose given occasional anxiety
   - Holding depakote given MS changes and elevated ammonia level
   - Ammonia level normalized now. Suspect adverse effect from Depakote
   - Monitor with serial ABGs
   # UTI/HEMATURIA: Hematuria improved. Ongoing moderately high blood loss
   in urine, initially thought [**2-1**] to simple UTI but given volume
   concerning for other process. No clots. Denying complaints. h/o Cipro-R
   ecoli.
   - defer more extensive w/u to outpatient provided pt remains stable
   - continue Aztreo/Linezolid
   - intermittent irrigation as needed
   - QD hct checks
   - f/u urine cx
   - Outpatient urology w/u
   # Low urine output
 Improved on Lasix
   - Continue Lasix with goal of -500cc today.
   # RASH: likely drug reaction, back appears somewhat more red in
   dependent areas
   - Appears to be improving clinically
   - continue to monitor and consider derm consult if worsening
   # Hypertension: On Diltiazem as outpatient, currently being held given
   pressures.
   - Holding Dilt, but can restart if Pt tachycardic or hypertensive
   - Can give 10 IV hydralazine q6h for HTN
   # Peripheral vascular disease: Patient known chronic venous stasis
   changes & Proteus wound infections.
    - Monitor, lotion [**Hospital1 **]
   # Bipolar disorder: On Risperdal / Depakote as outpatient.
    - Hold medications for AMS, plan to restart as able.
    - Check Depakote level; holding risperdal and depakote.
   # Diverticulosis: Patient h/o LGIB in [**2104**].  No c/o of pain at this
   time to indicate inflammation.
    - No e/o bleeding at this time
    - Continue bowel regimen
    - Monitor Hct
   # s/p CVA: Unclear what deficit remains and patient unable to provide
   further history.  Per family, unable to move R arm and not ambulatory
    - Extensive Neuro exam once patient less lethargic
   # Urinary Incontinence: At baseline.
    - Foley in place
   FEN: No IVF, diurese, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin
   Access: PIV, A Line, PICC
   Code: DNR/DNI  (confirmed with patient upon arrival to ICU)
   Communication: Patient & daughter [**Name (NI) 1040**]
   Disposition: ICU pending clinical improvement;, will call out to floor
   today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-3-7**] 07:01 PM
   PICC Line - [**2107-3-9**] 10:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2107-03-14 09:45:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic respiratory failure, pneumonia, afib/RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Afib/RVR last PM and this AM --> HR currently 130s-140s
   BP in 70s on aline but does not correlate with noninvasive (110s)
   24 Hour Events:
 ULTRASOUND - At [**2107-3-13**] 04:00 PM
   RUE US to R/O DVT
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Ciprofloxacin
   Unknown;
   Penicillins
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Meropenem
   Rash;
   Ativan (Oral) (Lorazepam)
   delirium;
   Depakote (Oral) (Divalproex Sodium)
   Hyperammonia;
   Last dose of Antibiotics:
   Aztreonam - [**2107-3-14**] 01:04 AM
   Linezolid - [**2107-3-14**] 05:05 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2107-3-13**] 12:52 PM
   Hydralazine - [**2107-3-13**] 06:12 PM
   Diltiazem - [**2107-3-13**] 11:44 PM
   Heparin Sodium (Prophylaxis) - [**2107-3-14**] 01:04 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-3-14**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.4
C (95.7
   HR: 100 (96 - 144) bpm
   BP: 102/58(67) {95/45(54) - 163/80(100)} mmHg
   RR: 21 (20 - 37) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,340 mL
                                                                    677 mL
   PO:
             TF:
   IVF:
                                                                  2,340 mL
                                                                    677 mL
   Blood products:
   Total out:
                                                                  1,430 mL
                                                                    275 mL
   Urine:
                                                                  1,430 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    910 mL
                                                                    402 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.29/85.[**Numeric Identifier 128**]/67/41/10
   PaO2 / FiO2: 191
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachy, irreg/irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: slightly throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, black, hyperkeratotic changes of bilateral lower
   extremities
   Skin:  Not assessed, mild [**Doctor Last Name **] erythematous rash over chest
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   11.5 g/dL
   143 K/uL
   77 mg/dL
   0.3 mg/dL
   41 mEq/L
   3.5 mEq/L
   6 mg/dL
   97 mEq/L
   144 mEq/L
   37.4 %
   5.6 K/uL
        [image002.jpg]
                             [**2107-3-11**]  02:53 PM
                             [**2107-3-12**]  03:03 AM
                             [**2107-3-12**]  03:27 AM
                             [**2107-3-12**]  06:53 AM
                             [**2107-3-13**]  03:45 AM
                             [**2107-3-13**]  04:03 AM
                             [**2107-3-14**]  02:15 AM
                             [**2107-3-14**]  02:28 AM
                             [**2107-3-14**]  06:05 AM
                             [**2107-3-14**]  08:37 AM
   WBC
   6.0
   5.1
   5.6
   Hct
   39.8
   38.6
   37.4
   Plt
   123
   126
   143
   Cr
   0.3
   0.3
   0.3
   TCO2
   44
   39
   42
   40
   43
   44
   43
   Glucose
   65
   74
   77
   Other labs: PT / PTT / INR:12.3/37.3/1.0, CK / CKMB /
   Troponin-T:39/5/<0.01, ALT / AST:[**8-17**], Alk Phos / T Bili:57/0.3,
   Differential-Neuts:72.1 %, Band:0.0 %, Lymph:16.7 %, Mono:8.1 %,
   Eos:2.9 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:252 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ATRIAL FIBRILLATION (AFIB)
 URINARY TRACT INFECTION (UTI)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   78F HTN, h/o CVA c residual R hemiplegia, PVD, bipolar d/o admitted
   with acute-on-chronic hypercarbic respiratory failure in the setting of
   BLL pneumonia, probably due to aspiration.  Main issue today is
   afib/RVR.
   Resp failure: much improved, no longer requiring NIPPV.  Cont linezolid
   / aztronam.  Would suspect that her baseline pCO2 is approx 80 so she
   is likely at baseline.  Mental status good today.
   Afib/RVR: Will give iv dilt gtt and follow non-invasive BPs.  If she
   passes speech and swallow, can start po dilt
   HTN: holding hydralazine given lower BPs in setting of afib
   F/E/N: speech and swallow today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-3-7**] 07:01 PM
   PICC Line - [**2107-3-9**] 10:07 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2107-03-15 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Ms. [**Known lastname **] did well yesterday, breathing comfortably on Nasal Canula all
   day. This morning she became a little bit dry and started to desat to
   89%, went up to 6L but only got to 92%, so started a steam mask.
   She had a speech and swallow eval which was indeterminate, suggesting a
   video speech and swallow eval. She has remained NPO pending her further
   study.
   In terms of her rhythm, she converted to SR yesterday after starting a
   dilt drip and has remained in NSR on dilt gtt since.
   Allergies:
   Ciprofloxacin
   Unknown;
   Penicillins
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Meropenem
   Rash;
   Ativan (Oral) (Lorazepam)
   delirium;
   Depakote (Oral) (Divalproex Sodium)
   Hyperammonia;
   Last dose of Antibiotics:
   Aztreonam - [**2107-3-15**] 12:00 AM
   Linezolid - [**2107-3-15**] 06:09 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-3-14**] 08:26 AM
   Diltiazem - [**2107-3-14**] 08:45 AM
   Furosemide (Lasix) - [**2107-3-15**] 02:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-15**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 35.6
C (96
   Tcurrent: 35.4
C (95.8
   HR: 68 (68 - 144) bpm
   BP: 101/60(74) {74/48(62) - 176/130(148)} mmHg
   RR: 16 (16 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,069 mL
                                                                    550 mL
   PO:
             TF:
   IVF:
                                                                  2,069 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                    755 mL
                                                                    352 mL
   Urine:
                                                                    755 mL
                                                                    352 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,314 mL
                                                                    198 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: 7.29/85.[**Numeric Identifier 128**]/67/42/10
   PaO2 / FiO2: 134
   Physical Examination
   Gen: NAD, alert and oriented to place
   Pulm: CTAB anteriorly
   CV: regular, 2/6 systolic murmur at LSB
   Abd: soft, NT/ND, + BS
   Peripheral Vascular: severe peripheral vascular disease of BLE
   Skin:  otherwise warm and dry, rash mostly gone
   Neurologic: alert, oriented, no new focal deficits
   Labs / Radiology
   136 K/uL
   11.1 g/dL
   82 mg/dL
   0.4 mg/dL
   42 mEq/L
   3.3 mEq/L
   7 mg/dL
   96 mEq/L
   141 mEq/L
   37.5 %
   5.2 K/uL
        [image002.jpg]
                             [**2107-3-12**]  03:03 AM
                             [**2107-3-12**]  03:27 AM
                             [**2107-3-12**]  06:53 AM
                             [**2107-3-13**]  03:45 AM
                             [**2107-3-13**]  04:03 AM
                             [**2107-3-14**]  02:15 AM
                             [**2107-3-14**]  02:28 AM
                             [**2107-3-14**]  06:05 AM
                             [**2107-3-14**]  08:37 AM
                             [**2107-3-15**]  04:12 AM
   WBC
   6.0
   5.1
   5.6
   5.2
   Hct
   39.8
   38.6
   37.4
   37.5
   Plt
   123
   126
   143
   136
   Cr
   0.3
   0.3
   0.3
   0.4
   TCO2
   39
   42
   40
   43
   44
   43
   Glucose
   65
   74
   77
   82
   Other labs: PT / PTT / INR:12.3/35.4/1.0, CK / CKMB /
   Troponin-T:39/5/<0.01, ALT / AST:[**8-17**], Alk Phos / T Bili:57/0.3,
   Differential-Neuts:72.1 %, Band:0.0 %, Lymph:16.7 %, Mono:8.1 %,
   Eos:2.9 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:252 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   78F HTN, CVA c R hemiplegia, PVD, bipolar d/o admitted with
   acute-on-chronic hypercarbic respiratory failure and probable UTI, PNA
   with productive cough, now significantly improved, completely off NPPV.
   # Atrial Fibrilation: new AF now resolved on dilt gtt. No history of AF
   per documentation. On IV dilt 10 q6 if HR>160 pr.  Was given lopressor
   , however may have contributed to worsening respiratory status. CE
   negative. TSH normal.
   - Started diltiazem drip titrated to HR <110, SBP >80. Will titrate to
   IV dilt today, and PO if tolerating PO meds
   - Transition to PO diltiazem pending passing speech and swallow
   evaluation today.
   - Given history of strokes, will discuss anticoagulation; holding off
   now because may get PEG
   # Hypercarbic Respiratory Failure: Acute on chronic. Suspect
   multifactorial including chronic hypercarbia at baseline +/- excess
   volume +/- infection. Continues to have radiographic e/o PNA on CXR.
   Baseline HCO3 30, 38 on admission. No evidence of PE on CTA. s/p
   tracheostomy in [**4-/2096**] [**2-1**] incarcerated hernia repair and failure to
   wean. Unclear if aspiration risk but on po diet at NS.  Ammonia level
   has come down since stopping depakote.  Failed S&S test.
   - Continue linezolid/aztreonam for total of [**10-13**] days
   - Continue NC as needed, maintain O2 sat > 92%
   - Acquire ABG based on worsening mental status and O2 sat <92%, CO2 <90
   - Lasix 20mg IV x1 today, follow UOP for goal euvolemic
   - PFTs and negative inspiratory force as out-patient to evaluate
   respiratory muscle function.
   - F/U culture
   - Continue noninvasive ventilation as needed
   - Social work consult and family meeting to discuss goals of care
   # Nutritional Status:  Failed speech and swallow and has refused
   Dobhoff/PEG.  Discussed TPN, however this is not an effective bridge to
   a definitive therapy.
   -  Speech and swallow evaluation today
   - Continue to discuss with family
   # Lethargy/AMS:  At baseline today. Agitated, anxious overnight.
   Present work-up notable for +UA (with history of Cipro-R E.coli) and
   CXR which appears more volume over-loaded than true PNA.  Afebrile,
   without leukocytosis.  Family notes h/o coughing.  Could also consider
   aspiration, viral vs atypicals.  Also with hypercarbia that is
   definitely contributing. Resolved with improvement in respiratory
   status.
   - Continue Zydis; will not give Ativan.
   - Will start  home risperdal dose given occasional anxiety
   - Holding depakote given MS changes and elevated ammonia level
   - Ammonia level normalized now. Suspect adverse effect from Depakote
   - Monitor with serial ABGs
   # UTI/HEMATURIA: Hematuria improved. Ongoing moderately high blood loss
   in urine, initially thought [**2-1**] to simple UTI but given volume
   concerning for other process. No clots. Denying complaints. h/o Cipro-R
   ecoli.
   - defer more extensive w/u to outpatient provided pt remains stable
   - continue Aztreo/Linezolid
   - intermittent irrigation as needed
   - QD hct checks
   - f/u urine cx
   - Outpatient urology w/u
   # Low urine output
 Improved on Lasix
   - Continue Lasix with goal of even today.
   # RASH: likely drug reaction, back appears somewhat more red in
   dependent areas
   - Appears to be improving clinically
   - continue to monitor and consider derm consult if worsening
   # Hypertension: On Diltiazem as outpatient, currently being held given
   pressures.
   - Holding Dilt, but can restart if Pt tachycardic or hypertensive
   - Can give 10 IV hydralazine q6h for HTN
   # Peripheral vascular disease: Patient known chronic venous stasis
   changes & Proteus wound infections.
    - Monitor, lotion [**Hospital1 **]
   # Bipolar disorder: On Risperdal / Depakote as outpatient.
    - Hold medications for AMS, plan to restart as able.
    - Check Depakote level; holding risperdal and depakote.
   # Diverticulosis: Patient h/o LGIB in [**2104**].  No c/o of pain at this
   time to indicate inflammation.
    - No e/o bleeding at this time
    - Continue bowel regimen
    - Monitor Hct
   # s/p CVA: Unclear what deficit remains and patient unable to provide
   further history.  Per family, unable to move R arm and not ambulatory
    - Extensive Neuro exam once patient less lethargic
   # Urinary Incontinence: At baseline.
    - Foley in place
   FEN: No IVF, diurese, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin
   Access: A Line, PICC
   Code: DNR/DNI  (confirmed with patient upon arrival to ICU)
   Communication: Patient & daughter [**Name (NI) 1040**]
   Disposition: ICU pending clinical improvement;, will call out to floor
   today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-3-7**] 07:01 PM
   PICC Line - [**2107-3-9**] 10:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2107-03-15 11:11:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   More somnolent this AM
   24 Hour Events:
 EKG - At [**2107-3-14**] 11:08 AM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Ciprofloxacin
   Unknown;
   Penicillins
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Meropenem
   Rash;
   Ativan (Oral) (Lorazepam)
   delirium;
   Depakote (Oral) (Divalproex Sodium)
   Hyperammonia;
   Last dose of Antibiotics:
   Linezolid - [**2107-3-15**] 06:09 AM
   Aztreonam - [**2107-3-15**] 09:30 AM
   Infusions:
   Diltiazem - 7.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2107-3-15**] 02:42 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: NPO
   Psychiatric / Sleep: Daytime somnolence
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-3-15**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 35.6
C (96
   Tcurrent: 35.4
C (95.8
   HR: 81 (68 - 133) bpm
   BP: 101/42(55) {74/37(51) - 130/100(106)} mmHg
   RR: 18 (16 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,069 mL
                                                                    802 mL
   PO:
             TF:
   IVF:
                                                                  2,069 mL
                                                                    802 mL
   Blood products:
   Total out:
                                                                    755 mL
                                                                    437 mL
   Urine:
                                                                    755 mL
                                                                    437 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,314 mL
                                                                    365 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///42/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: black, hyperkeratotic lesions bilaterally
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, somnolent
   Labs / Radiology
   11.1 g/dL
   136 K/uL
   82 mg/dL
   0.4 mg/dL
   42 mEq/L
   3.3 mEq/L
   7 mg/dL
   96 mEq/L
   141 mEq/L
   37.5 %
   5.2 K/uL
        [image002.jpg]
                             [**2107-3-12**]  03:03 AM
                             [**2107-3-12**]  03:27 AM
                             [**2107-3-12**]  06:53 AM
                             [**2107-3-13**]  03:45 AM
                             [**2107-3-13**]  04:03 AM
                             [**2107-3-14**]  02:15 AM
                             [**2107-3-14**]  02:28 AM
                             [**2107-3-14**]  06:05 AM
                             [**2107-3-14**]  08:37 AM
                             [**2107-3-15**]  04:12 AM
   WBC
   6.0
   5.1
   5.6
   5.2
   Hct
   39.8
   38.6
   37.4
   37.5
   Plt
   123
   126
   143
   136
   Cr
   0.3
   0.3
   0.3
   0.4
   TCO2
   39
   42
   40
   43
   44
   43
   Glucose
   65
   74
   77
   82
   Other labs: PT / PTT / INR:12.3/35.4/1.0, CK / CKMB /
   Troponin-T:39/5/<0.01, ALT / AST:[**8-17**], Alk Phos / T Bili:57/0.3,
   Differential-Neuts:72.1 %, Band:0.0 %, Lymph:16.7 %, Mono:8.1 %,
   Eos:2.9 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:252 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 AIRWAY CLEARANCE, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERATION IN NUTRITION
 ATRIAL FIBRILLATION (AFIB)
 URINARY TRACT INFECTION (UTI)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   78F HTN, h/o CVA c residual R hemiplegia, PVD, bipolar d/o admitted
   with acute-on-chronic hypercarbic respiratory failure in the setting of
   BLL pneumonia, probably due to aspiration.  Main issue today is
   afib/RVR.
   Resp failure: Improved.  Cont linezolid/aztronam x14 days.  Mental
   status good today.
   Afib/RVR: Try to wean iv dilt.  po dilt if she passes video swallow -->
   but likely going to need a PEG
   HTN: holding hydralazine given lower BPs in setting of afib
   F/E/N: video swallow today
   Remainder of issue per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2107-3-7**] 07:01 PM
   PICC Line - [**2107-3-9**] 10:07 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2107-03-16 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Failed speech and swallow eval. Daughter, [**Name (NI) 1040**] is coming for family
   meeting at 1pm tomorrow. Speech and swallow is interested in attending.
   Please page at [**Numeric Identifier 8683**] prior to the meeting. Wrote for gentle maintenance
   fluids overnight. D/c linezolid/aztreonam per ID recs as Pt has
   completed course for HAP. Pulled A line
   Allergies:
   Ciprofloxacin
   Unknown;
   Penicillins
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Meropenem
   Rash;
   Ativan (Oral) (Lorazepam)
   delirium;
   Depakote (Oral) (Divalproex Sodium)
   Hyperammonia;
   Last dose of Antibiotics:
   Aztreonam - [**2107-3-15**] 04:19 PM
   Linezolid - [**2107-3-15**] 06:38 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2107-3-15**] 12:04 PM
   Heparin Sodium (Prophylaxis) - [**2107-3-16**] 01:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-16**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.8
C (96.4
   HR: 85 (72 - 99) bpm
   BP: 124/55(72) {86/34(47) - 144/82(110)} mmHg
   RR: 21 (18 - 32) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,484 mL
                                                                    548 mL
   PO:
             TF:
   IVF:
                                                                  1,484 mL
                                                                    548 mL
   Blood products:
   Total out:
                                                                    752 mL
                                                                    135 mL
   Urine:
                                                                    752 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    732 mL
                                                                    413 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: 7.30/87.[**Numeric Identifier 244**]/78.[**Numeric Identifier 244**]/42/13
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), (Murmur:
   Systolic), faint SEM
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Bronchial: transmitted
   upper airways noises, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Skin:  Warm, Rash: chest: appears completely resolved
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): place, person, knew her clock was missing from
   the wall (which it was), Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   154 K/uL
   11.8 g/dL
   86 mg/dL
   0.3 mg/dL
   42 mEq/L
   4.0 mEq/L
   7 mg/dL
   94 mEq/L
   139 mEq/L
   39.5 %
   6.2 K/uL
        [image002.jpg]
                             [**2107-3-12**]  06:53 AM
                             [**2107-3-13**]  03:45 AM
                             [**2107-3-13**]  04:03 AM
                             [**2107-3-14**]  02:15 AM
                             [**2107-3-14**]  02:28 AM
                             [**2107-3-14**]  06:05 AM
                             [**2107-3-14**]  08:37 AM
                             [**2107-3-15**]  04:12 AM
                             [**2107-3-15**]  12:01 PM
                             [**2107-3-16**]  05:08 AM
   WBC
   5.1
   5.6
   5.2
   6.2
   Hct
   38.6
   37.4
   37.5
   39.5
   Plt
   126
   143
   136
   154
   Cr
   0.3
   0.3
   0.4
   0.3
   TCO2
   42
   40
   43
   44
   43
   45
   Glucose
   74
   77
   82
   86
   Other labs: PT / PTT / INR:12.6/40.4/1.1, CK / CKMB /
   Troponin-T:39/5/<0.01, ALT / AST:[**8-17**], Alk Phos / T Bili:57/0.3,
   Differential-Neuts:72.1 %, Band:0.0 %, Lymph:16.7 %, Mono:8.1 %,
   Eos:2.9 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:252 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
                                                                [**2107-3-15**]
                                                                    12:01p
   _______________________________________________________________________
                                     pH
                                    7.30
                                    pCO2
                                     88
                                     pO2
                                     79
                                    HCO3
                                     45
                                   BaseXS
                                     13
   Comments:
   pCO2: Provider Notified [**Name9 (PRE) **] [**Name9 (PRE) **] Lab Policy
   Type:Art; Not Intubated; Rate:/21; O2-Flow:2; Temp:35.6
                                                                [**2107-3-15**]
                                                                    11:57a
   _______________________________________________________________________
                                     pH
                                    7.30
                                    pCO2
                                     83
                                     pO2
                                     55
                                    HCO3
                                     43
                                   BaseXS
                                     10
   Comments:
   pCO2: Provider Notified [**Name9 (PRE) **] [**Name9 (PRE) **] Lab Policy
   Type:Mix; Not Intubated; Rate:/20; O2-Flow:2; Temp:35.6
   Assessment and Plan
   78F HTN, CVA c R hemiplegia, PVD, bipolar d/o admitted with
   acute-on-chronic hypercarbic respiratory failure and probable UTI, PNA
   with productive cough, now significantly improved, completely off NPPV.
   # Hypercarbic Respiratory Failure: Acute on chronic. Suspect
   multifactorial including chronic hypercarbia at baseline +/- excess
   volume +/- infection. Continues to have radiographic e/o PNA on CXR.
   Baseline HCO3 30, 38 on admission. No evidence of PE on CTA. s/p
   tracheostomy in [**4-/2096**] [**2-1**] incarcerated hernia repair and failure to
   wean. Now s/p linezolid/aztreonam.
   - Continue NC as needed, maintain O2 sat > 92%
   - Lasix 20mg IV x1 today, follow UOP for goal euvolemic
   - Acquire ABG based on worsening mental status and O2 sat <92%, CO2 <90
   # Nutritional Status: Failed video speech and swallow. Pt amenable to
   PEG but not any oral or nasal tube.
    - Finalize plans with family at meeting today
    - No TPN for now
   # Lethargy/AMS: Mostly now at baseline, occasionally agitated at times.
   Original AMS likely multifactorial including infectious, hypercarbic.
   Now resolved. Ammonia level has come down since stopping depakote.
   - Continue Zydis; will not give Ativan.
   - Continue home risperdal dose given occasional anxiety
   - Continue to hold depakote given MS changes and elevated ammonia level
   # Atrial Fibrilation: new AF now resolved on dilt gtt. No history of AF
   per documentation. On IV dilt 10 q6 if HR>160 pr.  Was given lopressor
   , however may have contributed to worsening respiratory status. CE
   negative. TSH normal.
   - Started diltiazem drip titrated to HR <110, SBP >80. Will titrate to
   IV dilt today, and PO if tolerating PO meds
   - Transition to PO diltiazem pending passing speech and swallow
   evaluation today.
   - Given history of strokes, will discuss anticoagulation; holding off
   now because may get PEG
   [image004.jpg]
   # UTI/Hematuria: Hematuria resolved. Initial concern for other process
   (potential malignancy) given ongoing hematuria but now resolved. Of
   note, pt with h/o Cipro-R ecoli.
   - if returns, outpatient workup by urology would be appropriate
   - continue Aztreo/Linezolid
   - intermittent irrigation as needed
   # Low urine output: Intermittent, generally improved on Lasix, but
   overall not staying even.
   -          Continue Lasix with goal of even today, will likely need [**Hospital1 **]
   dosing
   [image006.jpg]
   [image008.jpg]
   # Rash: resolved. Was likely drug reaction with mild erythematous rash
   across chest and back. Likely drug reaction thought most likely to
   meropenem, which was added to her allergy list.
   # Hypertension: On diltiazem as outpatient, was on dilt gtt inpatient,
   now off.
   - restart PO dilt once feeding tube resolved
   - Can give 10 IV hydralazine q6h for HTN
   # Peripheral vascular disease: Patient known chronic venous stasis
   changes & Proteus wound infections.
    - Monitor, lotion [**Hospital1 **]
   # Bipolar disorder: On Risperdal / Depakote as outpatient, now off
   depakote (added to allergies due to concern for high ammonia levels).
   Restarted risperdal. Using Zydis (SL zyprexa) prn.
   # Diverticulosis: Patient h/o LGIB in [**2104**].  No c/o of pain at this
   time to indicate inflammation.
    - No e/o bleeding at this time
    - Continue bowel regimen
    - Monitor Hct
   # s/p CVA: Unclear what deficit remains and patient unable to provide
   further history.  Per family, unable to move R arm and not ambulatory
    - Extensive Neuro exam once patient less lethargic
   # Urinary Incontinence: At baseline.
    - Foley in place
   FEN: No IVF, diurese, replete electrolytes, NPO pending PEG tube
   placement
   Prophylaxis: Subcutaneous heparin
   Access: A Line, PICC
   Code: DNR/DNI  (confirmed with patient upon arrival to ICU)
   Communication: Patient & daughter [**Name (NI) 1040**]
   Disposition: ICU pending clinical improvement;, will call out to floor
   today
   ICU Care
   Nutrition:
   Glycemic Control:  none (sugars well-controlled)
   Lines:
   PICC Line - [**2107-3-9**] 10:07 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer:
   VAP:  N/A
   Comments:
   Communication:  Comments:  Patient and Daughter ([**Doctor First Name 1040**])
   Code status: DNR / DNI
   Disposition: potential callout today, then likely to [**Hospital1 169**] vs LTAC
   pending PEG placement

2107-03-16 11:06:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints - somewhat somnolent this AM
   24 Hour Events:
 FLUOROSCOPY - At [**2107-3-15**] 04:23 PM
   barium swallow video study
 ARTERIAL LINE - STOP [**2107-3-15**] 09:00 PM
   Currently in sinus
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Ciprofloxacin
   Unknown;
   Penicillins
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Meropenem
   Rash;
   Ativan (Oral) (Lorazepam)
   delirium;
   Depakote (Oral) (Divalproex Sodium)
   Hyperammonia;
   Last dose of Antibiotics:
   Aztreonam - [**2107-3-15**] 04:19 PM
   Linezolid - [**2107-3-15**] 06:38 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2107-3-15**] 12:04 PM
   Heparin Sodium (Prophylaxis) - [**2107-3-16**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: NPO
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-3-16**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35
C (95
   HR: 92 (72 - 99) bpm
   BP: 104/49(62) {86/34(47) - 144/82(110)} mmHg
   RR: 22 (18 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,484 mL
                                                                    631 mL
   PO:
             TF:
   IVF:
                                                                  1,484 mL
                                                                    631 mL
   Blood products:
   Total out:
                                                                    752 mL
                                                                    190 mL
   Urine:
                                                                    752 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    732 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.30/87.[**Numeric Identifier 244**]/78.[**Numeric Identifier 244**]/42/13
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered, transmitted upper airway sounds)
   Abdominal: Soft, Non-tender
   Extremities: no change in chronic vascular changes of b/l lower
   extremities
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   154 K/uL
   86 mg/dL
   0.3 mg/dL
   42 mEq/L
   4.0 mEq/L
   7 mg/dL
   94 mEq/L
   139 mEq/L
   39.5 %
   6.2 K/uL
        [image002.jpg]
                             [**2107-3-12**]  06:53 AM
                             [**2107-3-13**]  03:45 AM
                             [**2107-3-13**]  04:03 AM
                             [**2107-3-14**]  02:15 AM
                             [**2107-3-14**]  02:28 AM
                             [**2107-3-14**]  06:05 AM
                             [**2107-3-14**]  08:37 AM
                             [**2107-3-15**]  04:12 AM
                             [**2107-3-15**]  12:01 PM
                             [**2107-3-16**]  05:08 AM
   WBC
   5.1
   5.6
   5.2
   6.2
   Hct
   38.6
   37.4
   37.5
   39.5
   Plt
   126
   143
   136
   154
   Cr
   0.3
   0.3
   0.4
   0.3
   TCO2
   42
   40
   43
   44
   43
   45
   Glucose
   74
   77
   82
   86
   Other labs: PT / PTT / INR:12.6/40.4/1.1, CK / CKMB /
   Troponin-T:39/5/<0.01, ALT / AST:[**8-17**], Alk Phos / T Bili:57/0.3,
   Differential-Neuts:72.1 %, Band:0.0 %, Lymph:16.7 %, Mono:8.1 %,
   Eos:2.9 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:252 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION (IAH,
   ACS)
 IMPAIRED SKIN INTEGRITY
 AIRWAY CLEARANCE, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERATION IN NUTRITION
 ATRIAL FIBRILLATION (AFIB)
 URINARY TRACT INFECTION (UTI)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   78F HTN, h/o CVA c residual R hemiplegia, PVD, bipolar d/o admitted
   with acute-on-chronic hypercarbic respiratory failure in the setting of
   BLL pneumonia, probably due to aspiration.
   Resp failure: Improved.  Cont linezolid/aztronam x14 days for pneumonia
   Afib/RVR: Off dilt gtt, in sinus rhythm
   HTN: BP normal at present
   F/E/N: failed viseo swallow.  needs suctioning of oral secretions
   intermittently
   Given that she is off of dilt gtt.  Will call her out to the floor
   later today but will first meet with family to discuss PEG
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-3-9**] 10:07 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:

2107-03-17 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Had family meeting - agreed to PEG. Surgery consulted, will plan to do
   today vs tomorrow most likely. in afternoon desated a bit to low 80s,
   pCO2 105, suctioning, c/f new aspiration but stat CXR not
   overwhelmingly impressive. On BiPAP for a few hours then stopped
   because difficulty handing it, sats ~90, heavy secretions, blood
   tinged. Tried to call daughter three times to update her on status but
   no answer.
   Spent most of the night in the low 90s. Around 2am was tachy to 113,
   noted to be bleeding a little from SQH injection sites, ongoing
   hematuria. Hct stable. 3am was tachypneic and put back on bipap. Calmed
   down with slow breathing but noted to have rapid shallow breaths on top
   of her more deliberate slower breaths.
   No new complaints this morning.
   Allergies:
   Ciprofloxacin
   Unknown;
   Penicillins
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Meropenem
   Rash;
   Ativan (Oral) (Lorazepam)
   delirium;
   Depakote (Oral) (Divalproex Sodium)
   Hyperammonia;
   Last dose of Antibiotics:
   Aztreonam - [**2107-3-15**] 04:19 PM
   Linezolid - [**2107-3-15**] 06:38 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-3-16**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2107-3-17**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 101 (90 - 119) bpm
   BP: 117/62(73) {103/44(62) - 142/85(90)} mmHg
   RR: 30 (20 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,022 mL
                                                                    550 mL
   PO:
             TF:
   IVF:
                                                                  1,022 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                    402 mL
                                                                    140 mL
   Urine:
                                                                    402 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    620 mL
                                                                    410 mL
   [**Year (2 digits) **] support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 303 (303 - 400) mL
   PS : 12 cmH2O
   RR (Spontaneous): 38
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 94%
   ABG: ///39/
   Ve: 4.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), (Murmur:
   Systolic), faint SEM
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   [**Year (2 digits) **] / Chest: (Breath Sounds: Clear : , Bronchial: transmitted
   upper airways noises, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Skin:  Warm, Rash: chest: appears completely resolved
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): place, person, knew her clock was missing from
   the wall (which it was), Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   125 K/uL
   11.3 g/dL
   86 mg/dL
   0.4 mg/dL
   39 mEq/L
   4.1 mEq/L
   8 mg/dL
   97 mEq/L
   141 mEq/L
   38.9 %
   5.2 K/uL
        [image002.jpg]
                                                                [**2107-3-17**]
                                                                    02:52a
   _______________________________________________________________________
                                     pH
                                    7.26
                                    pCO2
                                     90
                                     pO2
                                     52
                                    HCO3
                                     42
                                   BaseXS
                                      9
   Type:[**Last Name (un) **]; Temp:36.9
   Lactate:0.9
                                                                [**2107-3-16**]
                                                                     8:35p
   _______________________________________________________________________
                                     pH
                                    7.28
                                    pCO2
                                     91
                                     pO2
                                     46
                                    HCO3
                                     45
                                   BaseXS
                                     11
   Type:[**Last Name (un) **]; Not Intubated; FiO2%:50; Temp:35.7
   Lactate:1.0
                                                                [**2107-3-16**]
                                                                     4:19p
   _______________________________________________________________________
                                     pH
                                    7.17
                                    pCO2
                                     109
                                     pO2
                                     55
                                    HCO3
                                     42
                                   BaseXS
                                      6
   Type:[**Last Name (un) **]
   Lactate:1.0
                             [**2107-3-13**]  03:45 AM
                             [**2107-3-13**]  04:03 AM
                             [**2107-3-14**]  02:15 AM
                             [**2107-3-14**]  02:28 AM
                             [**2107-3-14**]  06:05 AM
                             [**2107-3-14**]  08:37 AM
                             [**2107-3-15**]  04:12 AM
                             [**2107-3-15**]  12:01 PM
                             [**2107-3-16**]  05:08 AM
                             [**2107-3-17**]  02:25 AM
   WBC
   5.1
   5.6
   5.2
   6.2
   5.2
   Hct
   38.6
   37.4
   37.5
   39.5
   38.9
   Plt
   126
   143
   136
   154
   125
   Cr
   0.3
   0.3
   0.4
   0.3
   0.4
   TCO2
   40
   43
   44
   43
   45
   Glucose
   74
   77
   82
   86
   86
   Other labs: PT / PTT / INR:12.3/45.9/1.0, CK / CKMB /
   Troponin-T:39/5/<0.01, ALT / AST:13/19, Alk Phos / T Bili:56/0.3,
   Differential-Neuts:72.1 %, Band:0.0 %, Lymph:16.7 %, Mono:8.1 %,
   Eos:2.9 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL, LDH:262 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   78F HTN, CVA c R hemiplegia, PVD, bipolar d/o admitted with
   acute-on-chronic hypercarbic [**Year (4 digits) 2893**] failure and probable UTI, PNA
   with productive cough, now significantly improved, completely off NPPV.
   # Hypercarbic [**Year (4 digits) **] Failure: Acute on chronic. Suspect
   multifactorial including chronic hypercarbia at baseline +/- excess
   volume +/- infection. Continues to have radiographic e/o PNA on CXR.
   Baseline HCO3 30, 38 on admission. No evidence of PE on CTA. s/p
   tracheostomy in 5/99 [**2-1**] incarcerated hernia repair and failure to
   wean. Now s/p linezolid/aztreonam.
   - Continue NC as needed, maintain O2 sat in low 90s
   - Acquire ABG based on worsening mental status and O2 sat <92%, CO2 <90
   - 20 IV lasix this AM, with goal I/O -500 mL to -1L, will recheck PM
   lyes
   - Will restart linezolid/aztreonam given worsening [**Month/Day (2) 2893**] status
   and concern for possible PNA
   .
   # Nutritional Status: Failed video speech and swallow. PEG tube planned
   for today vs tomorrow.
   - No TPN for now
   # Anxiety: patient with known history of mental illness with recently
   stopped mood stabilizing medication exhibiting signs of intermittent
   anxiety with tachycardia, tachypnea and distress without clearly
   identifiable other causes and noteably triggered by stressful events
    - will consider psych consult once MS [**First Name (Titles) **] [**Last Name (Titles) 2893**] status improved
   # Lethargy/AMS: Mostly now at baseline, occasionally agitated at times.
   Original AMS likely multifactorial including infectious, hypercarbic.
   Now resolved. Ammonia level has come down since stopping depakote.
   - Continue Zydis; will not give Ativan.
   - Continue home risperdal dose given occasional anxiety
   - Continue to hold depakote given MS changes and elevated ammonia level
   .
   #Thrombocytopenia
   - Platelets trending down.
   - Will hold heparin for now, and restart with [**Hospital1 **] heparin
   - Will check hemolysis labs, DIC labs
   - Will recheck CBC this PM
   .
   # Atrial Fibrilation: new AF now resolved. No history of AF per
   documentation. Off of IV Diltiazem drip.  Was given lopressor , however
   may have contributed to worsening [**Hospital1 2893**] status. CE negative. TSH
   normal.
   - Would ideally rate control her with PO meds
 revisit this once PEG
   placed
   - Given history of strokes, will discuss anticoagulation; holding off
   now because may get PEG
   .
   # UTI/Hematuria: Hematuria had improved, but now continues. Completed
   antibiotic course.  Likely needs outpatient follow up for work up of
   possible urinary malignancy
   - continue to monitor
   - f/u urine cytology
   # Low urine output: Intermittent, generally improved on Lasix, but
   overall not staying even.
    - Goal is even today
 will not diurese
   # Rash: resolved. Was likely drug reaction with mild erythematous rash
   across chest and back. Likely drug reaction thought most likely to
   meropenem, which was added to her allergy list.
   # Hypertension: On diltiazem as outpatient, was on dilt gtt inpatient,
   now off.
   - restart PO dilt once feeding tube resolved
   - Can give 10 IV hydralazine q6h for HTN
   # Peripheral vascular disease: Patient known chronic venous stasis
   changes & Proteus wound infections.
    - Monitor, lotion [**Hospital1 **]
   # Bipolar disorder: On Risperdal / Depakote as outpatient, now off
   depakote (added to allergies due to concern for high ammonia levels).
   Restarted risperdal. Using Zydis (SL zyprexa) prn.
   # Diverticulosis: Patient h/o LGIB in [**2104**].  No c/o of pain at this
   time to indicate inflammation.
    - No e/o bleeding at this time
    - Continue bowel regimen
    - Monitor Hct
   # s/p CVA: Unclear what deficit remains and patient unable to provide
   further history.  Per family, unable to move R arm and not ambulatory
    - Extensive Neuro exam once patient less lethargic
   # Urinary Incontinence: At baseline.
    - Foley in place
   FEN: No IVF, diurese, replete electrolytes, NPO pending PEG tube
   placement
   Prophylaxis: Subcutaneous heparin
   Access: A Line, PICC
   Code: DNR/DNI  (confirmed with patient upon arrival to ICU)
   Communication: Patient & daughter [**Name (NI) 1040**]
   Disposition: ICU pending clinical improvement;, will call out to floor
   today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-3-9**] 10:07 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2107-03-17 09:17:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic/Hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Has been increasing hypoxemic and hypercarbic since last PM --> on
   NIPPV overnight.  Desatted to low 80s off of NIPPV this AM --> no going
   back on.  Last venous pCO2 of 90.
   Had family meeting with Mrs. [**Known lastname **], her sister, and her daughter
   yesterday --> explained her swallowing issues and pt agreed with
   pursuing G-tube.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2107-3-16**] 04:30 PM
   History obtained from [**Hospital 85**] Medical records, icu team
   Allergies:
   Ciprofloxacin
   Unknown;
   Penicillins
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Meropenem
   Rash;
   Ativan (Oral) (Lorazepam)
   delirium;
   Depakote (Oral) (Divalproex Sodium)
   Hyperammonia;
   Last dose of Antibiotics:
   Aztreonam - [**2107-3-15**] 04:19 PM
   Linezolid - [**2107-3-15**] 06:38 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-3-16**] 06:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Dyspnea, NIPPV
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-3-17**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 98 (90 - 119) bpm
   BP: 123/60(74) {103/44(62) - 142/85(90)} mmHg
   RR: 24 (21 - 37) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,022 mL
                                                                    744 mL
   PO:
             TF:
   IVF:
                                                                  1,022 mL
                                                                    744 mL
   Blood products:
   Total out:
                                                                    402 mL
                                                                    170 mL
   Urine:
                                                                    402 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    620 mL
                                                                    574 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 303 (303 - 400) mL
   PS : 12 cmH2O
   RR (Spontaneous): 38
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 95%
   ABG: ///39/
   Ve: 4.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: no change to chronic b/l vascular changes
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   125 K/uL
   86 mg/dL
   0.4 mg/dL
   39 mEq/L
   4.1 mEq/L
   8 mg/dL
   97 mEq/L
   141 mEq/L
   38.9 %
   5.2 K/uL
        [image002.jpg]
                             [**2107-3-13**]  03:45 AM
                             [**2107-3-13**]  04:03 AM
                             [**2107-3-14**]  02:15 AM
                             [**2107-3-14**]  02:28 AM
                             [**2107-3-14**]  06:05 AM
                             [**2107-3-14**]  08:37 AM
                             [**2107-3-15**]  04:12 AM
                             [**2107-3-15**]  12:01 PM
                             [**2107-3-16**]  05:08 AM
                             [**2107-3-17**]  02:25 AM
   WBC
   5.1
   5.6
   5.2
   6.2
   5.2
   Hct
   38.6
   37.4
   37.5
   39.5
   38.9
   Plt
   126
   143
   136
   154
   125
   Cr
   0.3
   0.3
   0.4
   0.3
   0.4
   TCO2
   40
   43
   44
   43
   45
   Glucose
   74
   77
   82
   86
   86
   Other labs: PT / PTT / INR:12.3/45.9/1.0, CK / CKMB /
   Troponin-T:39/5/<0.01, ALT / AST:13/19, Alk Phos / T Bili:56/0.3,
   Differential-Neuts:72.1 %, Band:0.0 %, Lymph:16.7 %, Mono:8.1 %,
   Eos:2.9 %, Lactic Acid:0.9 mmol/L, Albumin:3.3 g/dL, LDH:262 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION (IAH,
   ACS)
 IMPAIRED SKIN INTEGRITY
 AIRWAY CLEARANCE, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERATION IN NUTRITION
 ATRIAL FIBRILLATION (AFIB)
 URINARY TRACT INFECTION (UTI)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RESPIRATORY FAILURE, CHRONIC
   78F HTN, h/o CVA c residual R hemiplegia, PVD, bipolar d/o admitted
   with repeated hypercarbic respiratory failure due to ongoing
   aspiration.
   Resp failure: Suspect that her current poor respiratory status is due
   to both ongoing aspiration as well as worsened effusion.  Given
   clinical decline will also restart antibiotics - linezolid/aztreonam.
   CXR show effusions are getting larger - will start with diuresis but
   may need to do thoracentesis.
   Afib/RVR: Currently in sinus tach
   HTN: BP currently stable
   F/E/N: unforunately too unstable for PEG today
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2107-3-9**] 10:07 AM
   Prophylaxis:
   DVT: SQ UF Heparin((holding subc heparin because of bleeding from
   sites))
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill
   ------ Protected Section ------
   Mrs. [**Known lastname **] continued to have respiratory distress, hypoxemia, and
   hypercarbia over the course of the day.  She was on and off NIPPV over
   the course of the day as well.  Given suspicion that she was volume
   overloaded with worsening bilateral effusions, diuresis was attempted,
   first with Lasix boluses and then with a Lasix drip.  Mrs. [**Known lastname **]
   daughter was informed of her worsening status earlier in the day and
   was in to see her mother in the afternoon.  I met with her at the
   bedside to update her and she received ongoing updates from the team
   before she departed.  At approx 6PM, Mrs. [**Known lastname **] had an acute
   desaturation to the 50s.  Ambu bagging was initiated but ventilation
   was difficult with poor air movement.  Attempt to suction her airway
   were not successful in retrieving any plug.  She continued to
   desaturate further followed by bradycardia and loss of pulse.  Given
   her explicit DNR/DNI status, CPR or endotracheal intubation was not
   pursued.  Mrs. [**Known lastname **] expired at 6:20PM.  Attempts to contact either her
   daughter or other family members have been unsuccessful up to this
   point.
   [Time spent 60 minutes]
   ------ Protected Section Addendum Entered By:[**Name (NI) 6010**] [**Name8 (MD) 6011**], MD
   on:[**2107-3-17**] 19:19 ------